2111-05-11 07:37:00 Physician Resident Progress Note
Chief Complaint: 48 y.o.f. with mitral valve prolapse and mitral
   regurgitation who presented with blurry vision, hearing loss, and
   shortness of breath, found to be in CHF.
   24 Hour Events:
   -persistently tachycardic/tachypneic/hypoxic yesterday
   -increasing 02 requirement, responded to high flow 02, ABG showed
   worsening hypoxia.
   -gave lasix for CHF, put out >1L overnight with minimal improvement in
   symptoms
   -CE's negative
   -Continues to complain of hearing loss
   Allergies:
   Zithromax (Oral) (Azithromycin)
   otoxocity
   visi
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2111-5-10**] 08:28 PM
   Furosemide (Lasix) - [**2111-5-10**] 10:56 PM
   Morphine Sulfate - [**2111-5-11**] 04:00 AM
   Other medications:
   Furosemide x1
   Captopril
   Lorazepam prn
   Acetaminophen prn
   Levofloxacin
   Hep SC
   Pantoprazole
   Morphine prn
   Docusate prn
   Ipratropium prn
   Changes to medical and family history: None
   Review of systems is unchanged from admission except as noted below
   Review of systems: Pt most distressed with her progressive b/l hearing
   loss.
   Flowsheet Data as of  [**2111-5-11**] 07:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 37.8
C (100.1
   HR: 113 (104 - 136) bpm
   BP: 103/72(80) {101/37(57) - 124/75(82)} mmHg
   RR: 32 (26 - 49) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 64 Inch
   Pulsus = 4
                  Total In:
                                                                    440 mL
                                                                    200 mL
   PO:
                                                                    440 mL
                                                                    200 mL
   TF:
   IVF:
   Blood products:
   Total out:
                                                                  1,575 mL
                                                                    800 mL
   Urine:
                                                                  1,575 mL
                                                                    800 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,135 mL
                                                                   -600 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: 7.47/40/73.[**Numeric Identifier 607**]/27/4
   PaO2 / FiO2: 73
   Physical Examination
   General Appearance: Anxious, tachypneic
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic. No elevated JVP
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: Tachycardic, unable to appreciated MRG
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: rapid shallow breathing with crackles bilaterally
   at bases
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed. No asterixes
   Labs / Radiology
   88 K/uL
   15.3 g/dL
   117 mg/dL
   0.9 mg/dL
   27 mEq/L
   3.5 mEq/L
   23 mg/dL
   92 mEq/L
   135 mEq/L
   43.4 %
   8.8 K/uL
        [image002.jpg]
                             [**2111-5-10**]  12:13 PM
                             [**2111-5-10**]  07:24 PM
                             [**2111-5-10**]  09:35 PM
                             [**2111-5-11**]  04:16 AM
   WBC
   8.8
   Hct
   43.4
   Plt
   88
   Cr
   0.9
   TropT
   <0.01
   TCO2
   29
   30
   Glucose
   117
   Other labs: CK / CKMB / Troponin-T:185/2/<0.01, LDH:3880 IU/L (none for
   prior comarison), Ca++:7.5 mg/dL, Mg++:2.5 mg/dL, PO4:4.5 mg/dL
   Last HIV test in our records [**2101**], negative
   Micro: [**5-9**] blood cultures pending, no growth to date
   CXR [**5-11**]:
   HISTORY: Hypoxia. Tachypnea.
   A single portable radiograph of the chest demonstrates persistent
   left-sided
   pleural effusion and basilar atelectasis, unchanged from [**2111-5-10**].
   Cardiomediastinal contours are unchanged. Trachea is midline. No
   pneumothorax. Equivocal right-sided pleural effusion is unchanged.
   IMPRESSION:
   No interval change
   Assessment and Plan
   The patient is a 48 y.o.f. with mitral valve prolapse and mitral
   regurgitation who presented with blurry vision, hearing loss, and
   shortness of breath, found to be in CHF.
   # Tachypnea and hypoxia
 Differential diagnosis includes CHF,
   pneumonia, PCP, [**Name10 (NameIs) **], pericardial effusion, profound anemia, pulmonary
   fibrosis, cardiopulmonary shunt.  No evidence for pericardial effusion
   or PE on CTA.  No profound anemia.  Has appearance of CHF on CXR from
   last night, diuresed to IV lasix however is persistently tachypneic,
   tachycardic and hypoxic.  Unclear etiology.  Clinical picture doesn
   entirely fit with CHF, BNP not excessively elevated, no elevated JVP,
   she does have crackles on exam, but her hypoxia is unexpectedly severe
   for her radiographic and clinical appearance of pulmonary edema. LDH is
   markedly elevated, raising suspicion for either liver disease,
   malignancy or PCP.
   [**Name10 (NameIs) 2320**] CXR now after diuresis
   - ECHO to assess valvular function and EF/diastolic dysfunction, and to
   eval for shunt physiology tomorrow (no echo techs on holiday)
   - Lasix for diuresis again this am
   - Hold BB in setting of acute decompensation
   - Pt consented for HIV testing, draw today
   - check b-glucan, induced sputum for PCP
   [**Name Initial (PRE) **] ACE [**Name Initial (PRE) **] as able for afterload reduction
   - Continue levofloxacin for possible CAP
   -Consider repeat CTA today after diuresis to better approach
   parenchymal disease.
   # Hyponatremia
 Resolved. Follow lytes [**Hospital1 **] while diuresing
   # Hearing and vision changes
 Likely side effect of azithromycin.
   Evaluated by neurology on admission who at that time found her symptoms
   to have resolved and recommended switching antibiotics and a brain MRI
   should symptoms recur
   -otoscopic exam today
   -Call neuro to query what we are looking for on brain MRI, consider MRI
   today/tomorrow to eval.
   #Thrombotytopenia.  Nl platelets 2 years ago, 115 on admission, 88
   now.  No stigmata of liver disease on exam.  LDH markedly elevated.
   Ddx for thrombocytopenia most likely is liver disease versus medication
   effect.
   -Check LFTs
   # Anxiety
 caution with sedation, but will use small doses of prn
   morphine and anxiert for sympomatic control.
   # FEN
 Replete lytes prn, diuresis
   ICU Care
   Nutrition: Cardiac, heart healthy
   Glycemic Control:  none
   Lines: PIV
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication: ICU consent needs to be signed Comments:
   Code status: Full code
   Disposition: ICU

2111-05-11 09:26:00 Physician Attending Progress Note
Chief Complaint: acute resp distress
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   48 year old female with MVP/MR [**Name13 (STitle) 2318**] in ED a few days ago with PNA.
   Returned with hearing/ivsion changes attributed to azithro but found to
   be hypoxic. CXR/CTA mostly notable for pulm edema, negative PE.
   Initially on floor on IV diuretics and abx. Transferred to [**Hospital Unit Name 44**] [**5-10**]
   for worsening hypoxia
   24 Hour Events:
   *Remained tachypneic with fluctuating  FiO2 requirement temporarily on
   hi-flow oxygen, now on 3 liters n.c..
   *got IV lasix with net ~1.5 liters negative but no striking improvement
   in oxygenation
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   Zithromax (Oral) (Azithromycin)
   otoxocity
   visi
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2111-5-10**] 08:28 PM
   Furosemide (Lasix) - [**2111-5-10**] 10:56 PM
   Morphine Sulfate - [**2111-5-11**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2111-5-11**] 09:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 37.8
C (100.1
   HR: 113 (104 - 136) bpm
   BP: 103/72(80) {101/37(57) - 124/75(82)} mmHg
   RR: 32 (26 - 49) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 64 Inch
                  Total In:
                                                                    440 mL
                                                                    200 mL
   PO:
                                                                    440 mL
                                                                    200 mL
   TF:
   IVF:
   Blood products:
   Total out:
                                                                  1,575 mL
                                                                    800 mL
   Urine:
                                                                  1,575 mL
                                                                    800 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,135 mL
                                                                   -600 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: 7.47/40/73.[**Numeric Identifier 607**]/27/4
   PaO2 / FiO2: 73
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, No(t)
   Overweight / Obese, No(t) Thin, Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube, No(t)
   NG tube, No(t) OG tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic), tachycardic. No RV heave
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical), (Breath
   Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t) Wheezes :
   , Diminished: at bases, No(t) Absent : , No(t) Rhonchorous: ),
   tachypneic
   Abdominal: Soft, No(t) Non-tender, Bowel sounds present, No(t)
   Distended, No(t) Obese
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): , Movement: Purposeful, No(t) Sedated, No(t)
   Paralyzed, Tone: Normal
   Labs / Radiology
   15.3 g/dL
   88 K/uL
   117 mg/dL
   0.9 mg/dL
   27 mEq/L
   3.5 mEq/L
   23 mg/dL
   92 mEq/L
   135 mEq/L
   43.4 %
   8.8 K/uL
        [image002.jpg]
                             [**2111-5-10**]  12:13 PM
                             [**2111-5-10**]  07:24 PM
                             [**2111-5-10**]  09:35 PM
                             [**2111-5-11**]  04:16 AM
   WBC
   8.8
   Hct
   43.4
   Plt
   88
   Cr
   0.9
   TropT
   <0.01
   TCO2
   29
   30
   Glucose
   117
   Other labs: CK / CKMB / Troponin-T:185/2/<0.01, LDH:3880 IU/L, Ca++:7.5
   mg/dL, Mg++:2.5 mg/dL, PO4:4.5 mg/dL
   Assessment and Plan
   48 year old female with MVP/MR admitted with hypoxia initially
   attributed to CHF +/-PNA
   #Acute resp distress
   Remains tachycardic and tachypneic with fluctuating o2 requirement.
   Overall clinical picture not characteristic for CHF decompensation.
   *Plan repeat CXR and likely hi res chest CT, Echo/bubble, check HIV,
   induce sputum for PCP
   *Continue supplemental oxygen as needed
   *Can continue Levaquin for possible CAP, for now
   #Hearing loss: previously attributed to Azithromycin. Otoscope exam.
   #Transaminitis: LFT
s demonstrate severe transaminitis (1000-[**2103**]);
   synthetic fxn appears preserved. Check hepatitis serologies, trend
   LFT
s, review meds, US of abdomen. Unclear how this fits with
   unexplained hypoxia. Will also obtain autoimmune labs given multiple
   unexplained organ system abnormalities.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2111-5-10**] 05:49 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2111-05-12 06:59:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ULTRASOUND - At [**2111-5-11**] 05:18 PM
   - Florid LFT abnormalities, AST 2623, ALT 1380, LDH 3880, tbili and alp
   normal, platelets low, alb 3.3, abdnormal coags.
   - Still with oxygen requirement after diuresis, CXR largely unchanged
   - CT chest on wet read showing interval worsening of bilateral
   effusions, improvement in fluid overload, worsening of L sided pna, no
   e/o PCP unchanged mediastinal LAD, 3mm L kidney stone, and borderline
   splenomegaly
   - Abd US with dopplers showing portal vein, IVC and hepatic veins
   patent, no ascites, spleen at upper limit of normal, and increased
   liver echogenicity c/w fatty liver though cirrhosis/fibrosis can't be
   excluded
   - Sent viral and autoimmune hepatitis serologies, iron panel for
   hemachromatosis (iron 83, TIBC 194, Ferritin >[**2103**], TRF 149), HIV,
   Immunoglobulins (IgG, IgA, IgM wnl); unable to add on TSH, FT4 as out
   of blood so will draw in am
   - glucan sent, unable to obtain induced sputum
   - BP down to 80s systolic after captopril. Gave 250cc NS bolus with
   good response.
   - Persistently tachycardic, tachypneic with 02 requirement
   Allergies:
   Zithromax (Oral) (Azithromycin)
   otoxocity
   visi
   Last dose of Antibiotics:
   Vancomycin - [**2111-5-12**] 03:56 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2111-5-11**] 09:15 PM
   Other medications:
   Acetaminophen prn
   Captopril
   Lorazepam prn
   Levofloxacin
   Hep SC
   Pantoprazole
   Morphine prn
   Docusate  prn
   Ipratropium
   Changes to medical and family history: None
   Review of systems is unchanged from admission except as noted below
   Review of systems: Breathing is
better
, no specific complaints other
   than persistent b/l hearing loss.
   Flowsheet Data as of  [**2111-5-12**] 06:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 36.6
C (97.9
   HR: 117 (108 - 144) bpm
   BP: 96/66(72) {77/19(43) - 206/151(165)} mmHg
   RR: 30 (26 - 50) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 64 Inch
             Total In:
                                                                  1,415 mL
                                                                    320 mL
   PO:
                                                                  1,165 mL
                                                                    120 mL
   TF:
   IVF:
                                                                    250 mL
                                                                    200 mL
   Blood products:
   Total out:
                                                                  1,375 mL
                                                                    310 mL
   Urine:
                                                                  1,375 mL
                                                                    310 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     40 mL
                                                                     10 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96% 5L
   ABG: ///27/
   Physical Examination
   General Appearance: Anxious, tachypneic
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic. No elevated JVP
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: Tachycardic, unable to appreciated MRG
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: rapid shallow breathing with crackles bilaterally
   at bases
   Abdominal: Soft, Non-tender, Bowel sounds present, spleen tip palpable.
   No RUQ tenderness.
   Extremities: No edema, distal pulsesl palpable
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed. No asterixes.
   HOH.
   Labs / Radiology
   89 K/uL
   14.7 g/dL
   142 mg/dL
   1.1 mg/dL
   27 mEq/L
   4.2 mEq/L
   31 mg/dL
   93 mEq/L
   133 mEq/L
   41.5 %
   9.1 K/uL
        [image002.jpg]
                             [**2111-5-10**]  12:13 PM
                             [**2111-5-10**]  07:24 PM
                             [**2111-5-10**]  09:35 PM
                             [**2111-5-11**]  04:16 AM
                             [**2111-5-12**]  02:45 AM
   WBC
   8.8
   9.1
   Hct
   43.4
   41.5
   Plt
   88
   89
   Cr
   0.9
   1.1
   TropT
   <0.01
   TCO2
   29
   30
   Glucose
   117
   142
   Other labs: PT / PTT / INR:17.9/80.1/1.6, CK / CKMB /
   Troponin-T:185/2/<0.01, ALT / AST:1329/2643, Alk Phos / T Bili:95/0.9,
   Albumin:3.3 g/dL, LDH:3786 IU/L, Ca++:7.5 mg/dL, Mg++:2.9 mg/dL,
   PO4:3.9 mg/dL
   Micro: Blood cx [**5-9**] pending
   CT chest:
                      Preliminary Report !! Wet Read !!
   1.Interval worsening of small bilateral effusions. Right greater than
   the
   left. Interval improvement in fluid overload.
   2. Interval worsening of the left sided pneumonia and right sided
   atelectasis.
   No evidence of PCP pneumonia is noted.
   3.Unchanged mediastineal lymph adenopathy.
   4. The visualized parts of the upper abdomen demonstrates 3mm left
   kidney
   stone and boderline splenomegaly.
   Abd u/s with doppler:
   IMPRESSION:
   1. Mildly increased liver echogenicity is consistent with fatty liver;
   however, other liver disease and more advanced liver disease including
   cirrhosis/fibrosis cannot be excluded. No focal liver lesion was
   detected.
   2. The portal vein, IVC and hepatic veins demonstrate normal flow
   patterns.
   3. The spleen is in the upper limits of normal measuring approximately
   12 cm.
   4. No ascites was noted.
   Assessment and Plan
   The patient is a 48 y.o.f. with mitral valve prolapse and mitral
   regurgitation who presented with blurry vision, hearing loss, and
   shortness of breath, with evidence for PNA, persistent hypoxia and LFT
   abnormalities.
   # Tachypnea and hypoxia
 Differential diagnosis includes CHF,
   pneumonia, PCP, [**Name10 (NameIs) **], pericardial effusion, profound anemia, pulmonary
   fibrosis, cardiopulmonary shunt.  No evidence for pericardial effusion
   or PE on CTA.  No profound anemia.  Has appearance of CHF on CXR,
   however has not improved with diuresis.  Unclear etiology.  Clinical
   picture doesn
t entirely fit with CHF, BNP not excessively elevated, no
   elevated JVP, she does have crackles on exam, but her hypoxia is
   unexpectedly severe for her radiographic and clinical appearance of
   pulmonary edema. LDH is markedly elevated, raising suspicion for either
   liver disease, malignancy or PCP.  [**Name10 (NameIs) **] chest CT (final read pending)
   showed no evidence PCP, [**Name10 (NameIs) 2324**] in pleural effusions,  worsening left
   sided PNA and atelectasis, improvement in pulmonary edema, persistent
   mediastinal LAD.  Correction of hypoxia with 02 makes shunt less
   likely, wet read ECHO with bubble study without evidence for
   shunting.   ? HLH in setting of neurologic symptoms, high LDH and
   ferritin.  Would need bronch to evaluate path.
   - f/u final read TTE
   - HIV ab test sent yesterday, f/u
   - b-glucan sent, f/u, pt unable to produce sputum upon induction, if
   hypoxia persists, consider bronch.
   - discontinue ACEI if EF normal as pt becomes hypotensive after it is
   given.
   - Continue levofloxacin for possible CAP
   - plant PPD
   - RPR
   #LFT abnormalities:  Pt has transaminitis >1000s, AST/ALT ratio ~2:1.
   Ddx for this degree of transaminitis includes ETOH hepatitis,
   medications (ie tylenol), shock liver, viral hepatitis.  Less likely
   [**Location (un) 2325**]
s, autoimmune. Consider HHC as  Fe/TIBC ration close to 45%.
   TSH WNL.  Autoimmune and viral serologies pending.
   -c/s hepatology
   - check serum TTG for celiac
   -check tylenol level
   -f/u viral serologies, autoimmune markers, HHC mutation, ceruloplasmin,
   look up ddx for high ferritin
   -continue to trend LFTs
   -consider liver bx//hepatology consult if no etiology found.
   #Hearing loss.  Neuro consult appreciate, most likely ddx is
   azithromycin adverse effect. Recommends brain MRI with gad to further
   evaluate in case of persistent concern.  Will also consider to evaluate
   any central cause for tachypnea.
   -f/u neuro recs
   -? Brain MRI
   # Hyponatremia
 Resolved. Follow lytes [**Hospital1 **] while diuresing
   #Thrombotytopenia.  Nl platelets 2 years ago, 115 on admission, 88
   now.  No stigmata of liver disease on exam.  LDH markedly elevated.
   Ddx for thrombocytopenia most likely is liver disease versus medication
   effect.
   -DIC panel
   -no need for heparin SC at this time for PPX given low platelets with
   abnomal coags
   # Anxiety
 caution with sedation, but will use small doses of prn
   morphine and anxiert for sympomatic control.
   # FEN
 Replete lytes prn, diuresis
   ICU Care
   Nutrition:
   Regular diet
   Glycemic Control:
   Lines:
   20 Gauge - [**2111-5-11**] 10:25 PM
   Prophylaxis:
   DVT: pneumoboots, no heparin SC for coagulopathy
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU for now while so tachypneic/tachycardic

2111-05-12 09:53:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   48 yo woman with MVR/MVP adm with blurred vision, hearing loss,
   hypoxemia and treated for presumed pna/chf. Treated with azithro, which
   may have caused some of the vision/hearing abnormalities. Tx to MICU
   for hypoxemia to 64%. MICU course sig for hypoxemia, tachypnea,
   tachycardia, pulm edema, found to have new LFT abnormalities with LDH
   nearly 4,000, transaminitis, coagulopathy. AST 2600, ALT 1400.
   Thrombocytopenia plts 89, Albumin 3.3. LFTs 2 yrs ago were normal.
   24 Hour Events:
 ULTRASOUND - At [**2111-5-11**] 05:18 PM
   Diuresed wth no change in CXR.
   [**5-9**] CTA neg PE. [**5-11**] CT showed improved PVC but increased pleural
   effusions, left infiltrate, increased hilar adenopathy.
   USG: all hepatic veins patent, no ascites. Spleen size high-normal.
   Beta glucan pending.
   Induced sputum not obtainable.
   Allergies:
   Zithromax (Oral) (Azithromycin)
   otoxocity
   visi
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2111-5-11**] 09:15 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Respiratory: Dyspnea
   Flowsheet Data as of  [**2111-5-12**] 09:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 36.6
C (97.9
   HR: 122 (108 - 144) bpm
   BP: 106/49(63) {77/19(43) - 206/151(165)} mmHg
   RR: 40 (26 - 50) insp/min
   SpO2: 94% on 5L
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 64 Inch
                  Total In:
                                                                  1,415 mL
                                                                    120 mL
   PO:
                                                                  1,165 mL
                                                                    120 mL
   TF:
   IVF:
                                                                    250 mL
   Blood products:
   Total out:
                                                                  1,375 mL
                                                                    355 mL
   Urine:
                                                                  1,375 mL
                                                                    355 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     40 mL
                                                                   -235 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ///27/
   Physical Examination
   General Appearance: Well nourished, No acute distress, Thin,
   tachycardic, tachypneic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL, Supraclavicular WNL, no axillary adenopathy
   Cardiovascular: (S1: Normal), (S2: Normal), murmur not audible
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Bowel sounds present, No(t) Distended, Tender: very
   mild, diffuse
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: No(t) Muscle wasting
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): all, Movement: Purposeful, Tone: Normal
   Labs / Radiology
   14.7 g/dL
   89 K/uL
   142 mg/dL
   1.1 mg/dL
   27 mEq/L
   4.2 mEq/L
   31 mg/dL
   93 mEq/L
   133 mEq/L
   41.5 %
   9.1 K/uL
        [image002.jpg]
                             [**2111-5-10**]  12:13 PM
                             [**2111-5-10**]  07:24 PM
                             [**2111-5-10**]  09:35 PM
                             [**2111-5-11**]  04:16 AM
                             [**2111-5-12**]  02:45 AM
   WBC
   8.8
   9.1
   Hct
   43.4
   41.5
   Plt
   88
   89
   Cr
   0.9
   1.1
   TropT
   <0.01
   TCO2
   29
   30
   Glucose
   117
   142
   Other labs: PT / PTT / INR:17.9/80.1/1.6, CK / CKMB /
   Troponin-T:185/2/<0.01, ALT / AST:1329/2643, Alk Phos / T Bili:95/0.9,
   Albumin:3.3 g/dL, LDH:3786 IU/L, Ca++:7.5 mg/dL, Mg++:2.9 mg/dL,
   PO4:3.9 mg/dL
   Fluid analysis / Other labs: Ferritin 2,000
   Thyroid studies normal
   Assessment and Plan
   48 yo woman with MVR/MVP adm with dyspnea, now with persistant
   hypoxemia, hearing loss, LFT abnormalities, mild fevers, tachypnea,
   tachycardia, mediastinal and hilar LAD. No joint inflammation or
   rashes.  HCV and HBV negative. Initially presented with headache,
   nausea, anorexia, and leukopenic with mild fever. No h/o exposure to
   pets, animals, travel. From [**State 2340**] originally. Armenian
   descent.
   I do not know what is the unifying diagnosis here. She never had a very
   high fever, apparently the USG did not suggest splenomegaly but upper
   limits of normal size. A viral illness may explain some of this,
   possibly HAV or EBV but still doesn
t explain the high oxygen requiring
   resp failure except that she got volume resuscitation when she
   presented dehydrated and has known MR/MVP.
   Hypoxmia, corrects with 5L NC oxygen.
   Most likely V/Q abnormality, as she does correct with supplemental
   oxygen. [**Month (only) 60**] have mild shunt, though unlikely the primary cause
   considering correction.
   Echo with bubble study pending.
   Pneumonia- not radiographically severe
   CHF
   Pulm htn- not indicated by CT
   ID. Recent pna.
   Sputum not obtained. Beta glucan pending.
   Levoflox- changed from azithro for CAP- changed for vision/hearing
   changes.
   Requesting Legionella urine Ag.
   Bronch probably not worthwhile if HIV negative. HIV pending. EBV
   pending.
   LFT abnormalities
   AST:ALT 2:1 though no sig EtOH hx.
   No rashes, joint inflammation, persistant fevers.
   H/O mild loose stools.
   HAV now positive antibody, but IgG. Will request IgM.
   GI consult for liver service input, value of biopsy.
   Hearing loss- occurred days after first dose of azithromycin. Neuro
   input appreciated.
   Thrombocytopenia.
   Likely synthetic dysfunction.
   Stopped subcut heparin.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2111-5-11**] 10:25 PM
   Prophylaxis: DVT: pneumoboots
   Code status: Full code
   Disposition : ICU
   Total time spent: 75 minutes
   Critically ill with severe tachypnea, hypoxemia, will need frequent
   evaluation for possible vent support- will consider NIPPV first.

2111-05-13 12:55:00 Physician Attending Progress Note
Chief Complaint: hypoxemia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   48 yo woman with MVR/MVP adm with dyspnea, now with persistant
   hypoxemia, hearing loss, LFT abnormalities, mild fevers, tachypnea,
   tachycardia, mediastinal and hilar LAD. No joint inflammation or
   rashes.  HCV and HBV negative. Initially presented with headache,
   nausea, anorexia, and leukopenic with mild fever.
   24 Hour Events:
   HIV neg.
   Hepatology consult appreciated. Suggested labs ordered.
   TTE: late bubbles c/w possible pulm AVMs.
   PPD placed yesterday, to be read [**5-14**].
   Episode of possible seizure activity: gaze deviation, jaw clenching.
   Brain MRI: periventric enhancement and around 8th nerve. Leptomeningeal
   process with broad ddx.
   Persistant sinus tachycardia.
   Continues tachypnea and continued high FiO2 requirement.
   Allergies:
   Zithromax (Oral) (Azithromycin)
   otoxocity
   visi
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   doxycycline, levofloxacin
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Gastrointestinal: Nausea, Emesis, hungry
   Neurologic: hearing improved
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2111-5-13**] 12:55 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 37.3
C (99.2
   HR: 128 (107 - 139) bpm
   BP: 101/62(72) {80/38(53) - 114/78(106)} mmHg
   RR: 28 (23 - 46) insp/min
   SpO2: 93% on 5L NC
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 64 Inch
             Total In:
                                                                  1,450 mL
                                                                  1,977 mL
   PO:
                                                                  1,000 mL
                                                                    340 mL
   TF:
   IVF:
                                                                    450 mL
                                                                  1,637 mL
   Blood products:
   Total out:
                                                                  1,135 mL
                                                                    715 mL
   Urine:
                                                                  1,135 mL
                                                                    685 mL
   NG:
   30 mL
   Stool:
   Drains:
   Balance:
                                                                    315 mL
                                                                  1,262 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 93% on 5L, mid 80s rapidly on RA.
   ABG: ///30/
   Physical Examination
   Much more somnolent, though arousable, alert, oriented x 3. Anxious and
   ill appearing. Diaphoretic. No scleral icterus, PERRL. Neck supple, no
   tenderness with chin to chest. RRR, no audible murmurs. Poor-moderate
   air mvmt with dullness bilat bases. Breathing seems more comfortable-
   less tachypneic than she was. Abd soft NTND. Skin changes chronic
   related to incontinentia pigmenti. Skin warm. No sig peripheral edema.
   Labs / Radiology
   14.5 g/dL
   76 K/uL
   124 mg/dL
   1.1 mg/dL
   30 mEq/L
   4.6 mEq/L
   39 mg/dL
   94 mEq/L
   132 mEq/L
   41.8 %
   11.4 K/uL
        [image002.jpg]
                             [**2111-5-10**]  12:13 PM
                             [**2111-5-10**]  07:24 PM
                             [**2111-5-10**]  09:35 PM
                             [**2111-5-11**]  04:16 AM
                             [**2111-5-12**]  02:45 AM
                             [**2111-5-13**]  04:25 AM
   WBC
   8.8
   9.1
   11.4
   Hct
   43.4
   41.5
   41.8
   Plt
   88
   89
   76
   Cr
   0.9
   1.1
   1.1
   TropT
   <0.01
   TCO2
   29
   30
   Glucose
   117
   142
   124
   Other labs: PT / PTT / INR:16.5/33.8/1.5, CK / CKMB /
   Troponin-T:185/2/<0.01, ALT / AST:1030/1476 [**Month (only) 38**] from 1329/2643, Alk
   Phos / T Bili:137/1.5, Fibrinogen:126 mg/dL, Albumin:2.8 g/dL, LDH:[**2120**]
   [**Month (only) 38**] from 3786 IU/L , Ca++:7.2 mg/dL, Mg++:3.1 mg/dL, PO4:3.5 mg/dL
   Fluid analysis / Other labs: Tylenol level negative
   Microbiology: HAV IgG +, IgM pending.
   Pending: CMV, RPR, Legionella Ag, VZV, leptospira, HSV, beta glucan
   Assessment and Plan
   48 yo woman with MVR/MVP adm with dyspnea, now with persistant
   hypoxemia, hearing loss, LFT abnormalities, mild fevers, tachypnea,
   tachycardia, mediastinal and hilar LAD. No joint inflammation or
   rashes.  HCV and HBV negative. Initially presented with headache,
   nausea, anorexia, and leukopenic with mild fever. Mild hyponatremia. No
   relevant exposures in her history. [**Doctor First Name 1205**]+ , titer pending.No rashes,
   joint inflammation. Hearing loss improving acc to pt. CTPA neg for PE.
   Pleural effusions very small- too small to tap.
   Difficult to describe unifying diagnosis that explains all of her
   systems involved:
          brain abnormalities- leptomeningeal process
          hypoxemia, severe though not as visibly dyspneic as
   yesterday
          chest LAD and interstitial opacification which appeared to
   be pulmonary edema
          LFT abnormalities rapidly improving and acute, making more
   likely toxic exposure or acute infection. Less likely infiltrative
   disease such as sarcoid or lupus given this chronicity.
          thrombocytopenia
          ARF with Cr 1.1 increased from baseline 0.7-0.9
          Confusing volume status: thought she was in pulm edema, got
   diuresed with no improvement in oxygenation. Initial BNP 500.
   Interstitial opacities may be interstitial infiltrate and not edema.
   Urine output approx 70-140cc/h, tachycardic.
          Mild hyponatremia - possibly with SIADH- will free water
   restrict.
   Start with LP.
   Broad micro w/u pending.
   Adding lyme serology.
   Trial of 250 NS to assess response on HR, urine output.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2111-5-12**] 08:45 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 75 minutes
   Patient is critically ill
   ------ Protected Section ------
   Met with pt
s health care proxy, [**Name (NI) 2331**] [**Name (NI) 2332**], updated her on
   findings, and learned further history that pt actually had headache and
   nausea/vomiting for 2.5 weeks. She has a dog and recently has been
   dealing with mice in her house- setting traps- but careful about
   washing her hands. No h/o herbal ingestions or teas for her headaches.
   30 min.
   ------ Protected Section Addendum Entered By:[**Name (NI) 2010**] [**Last Name (NamePattern1) **], MD
   on:[**2111-5-13**] 16:50 ------

2111-05-14 08:05:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -MRI brain significant for leptomeningeal enhancement.
   -Neuro recs LP, coverage for bacterial and viral abx and sending LP and
   serum for multiple tests.
   -LP done, very low presure (7cm H20), could only get a few cc's.  Not
   enough to complete many tests.
   -LP: 275 WBCs, with 73% "other" cells. Could only do gram stain and
   bact culture, chemistry, PEP, viral culture and lyme serologies.  Neuro
   aware and will repeat today for much needed cytology sample.
   -ID recs: CT abd/pelvis to eval LAD, serum EBV serologies, serum EBV
   PCR, serum CMV VL, T-cell lymphocyte subset, CSF PCR for EBV, CMV, VZV,
   ESR, CRP, Ehrlichia serologies.  No add'l antimicrobial coverage for
   now (continue doxy and levo).  Not enough CSF for viral serologies.
   Not enough serum sent this am for EBV and CMV, needs to be resent.
   -FeUrea >35%
   -peripheral smear shows 2+ large platelets, 3 atypical cells.
   -emailed cards ([**Doctor Last Name 2384**]) attending re: TTE and significance of late
   bubbles on study
   Allergies:
   Zithromax (Oral) (Azithromycin)
   otoxocity
   visi
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Prochlorperazine prn
   Lorazepam prn
   Ondansetron prn
   Acetaminophen prn
   Pantoprazole 40mg daily
   Morphine prn
   Docusate prn
   Ipratropium prn
   Changes to medical and family history: None
   Review of systems is unchanged from admission except as noted below
   Review of systems: Reports breathing improved. Denies pain. Main
   complaint is thirst and hunger.  + nausea.  Expresses frustration with
   need to repeat LP as well as as of yet unclear diagnosis in setting of
   multiple tests
   Flowsheet Data as of  [**2111-5-14**] 08:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.3
C (97.3
   HR: 114 (108 - 139) bpm
   BP: 94/55(71) {89/26(31) - 118/73(78)} mmHg
   RR: 37 (23 - 38) insp/min
   SpO2: 91%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 64 Inch
             Total In:
                                                                  4,342 mL
                                                                  1,530 mL
   PO:
                                                                  1,290 mL
                                                                    450 mL
   TF:
   IVF:
                                                                  3,052 mL
                                                                  1,080 mL
   Blood products:
   Total out:
                                                                  1,250 mL
                                                                    580 mL
   Urine:
                                                                  1,220 mL
                                                                    580 mL
   NG:
                                                                     30 mL
   Stool:
   Drains:
   Balance:
                                                                  3,092 mL
                                                                    950 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 91%
   ABG: ///24/
   Physical Examination
   General Appearance: Anxious, alert and oriented, still tachpneic but
   less than yesterday.
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic. No elevated JVP
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: Tachycardic, unable to appreciated MRG
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: rapid shallow breathing, very diminished breath
   sounds with no audible rales
   Abdominal: Soft, Non-tender, Bowel sounds present, spleen tip palpable.
   No RUQ tenderness.
   Extremities: No edema, distal pulsesl palpable
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed. No asterixes.
   Hearing impairment improved.  Anxious/depressed affect
   Labs / Radiology
   54 K/uL
   14.2 g/dL
   134 mg/dL
   0.9 mg/dL
   24 mEq/L
   5.7 mEq/L
   30 mg/dL
   96 mEq/L
   128 mEq/L
   42.0 %
   12.5 K/uL
        [image002.jpg]
                             [**2111-5-10**]  12:13 PM
                             [**2111-5-10**]  07:24 PM
                             [**2111-5-10**]  09:35 PM
                             [**2111-5-11**]  04:16 AM
                             [**2111-5-12**]  02:45 AM
                             [**2111-5-13**]  04:25 AM
                             [**2111-5-14**]  04:35 AM
   WBC
   8.8
   9.1
   11.4
   12.5
   Hct
   43.4
   41.5
   41.8
   42.0
   Plt
   88
   89
   76
   54
   Cr
   0.9
   1.1
   1.1
   0.9
   TropT
   <0.01
   TCO2
   29
   30
   Glucose
   117
   142
   124
   134
   Other labs: PT / PTT / INR:16.5/33.8/1.5, CK / CKMB /
   Troponin-T:185/2/<0.01, ALT / AST:725/829, Alk Phos / T Bili:179/1.3,
   Differential-Neuts:85.0 %, Band:4.0 %, Lymph:5.0 %, Mono:2.0 %, Eos:0.0
   %, Fibrinogen:126 mg/dL, Albumin:2.5 g/dL, LDH:1616 IU/L, Ca++:7.2
   mg/dL, Mg++:2.8 mg/dL, PO4:2.3 mg/dL
   Micro:
   No growth urine and blood cultures, UA without evidence for infection
                  WBC, CSF
                                                                       275
                                    #/uL
                  NOTIFIED [**First Name5 (NamePattern1) **] [**Last Name (NamePattern1) 2385**] AT 1656 ON [**2111-5-13**]
   RBC, CSF
                                                                     1000*
                                    #/uL
                                    0 - 0
                  CLEAR AND COLORLESS
   Polys
                                                                        15
                                      %
                  Lymphs
                                                                         7
                                      %
                  Monocytes
                                                                         5
                                      %
                  Other
                                                                        73
                                      %
                  PENDING REVIEW
   Total Protein, CSF
                                                                       94*
                                    mg/dL
                                   15 - 45
   Glucose, CSF
                                                                        64
                                    mg/dL
                  PROTEIN ELECTROPHORESIS
                  PEP, CSF
                                                                   Pending
   1+ PMNs, no microorganisms on CSF, bacterial, viral and fungal cultures
   pending, AFB smear pending, HHV6, lyme and HIV VL pending
   tTg-IgA
 WNL
   Urine legionella ag negative
   RPR reactive, ab tests and quantitiative PCR pending
   [**Doctor First Name 1205**] positive 1:160 titire
   Anti-sm ab negative
   HIV negative
   HCV and HBV negative, HAV IgG positive, IgM negative
   Pending labs:
   HHC
   Ceruloplasmin
   24 urine copper
   CRP
   ESR
   VZV, CMV, Lyme serologies pending
   EBV and CMV viral load cancelled, not enough specimen sent
   Leptospira pending
   B-glucan, galactomannan pending
   Assessment and Plan
   48F with confusing constellation of symptoms and lab abnormalities, as
   of yet unexplained: hypoxia and tachypnea, tachycardia, hearing loss,
   altered mental status,  elevated LFTs, thrombocytopenia, mediastinal
   LAD, leptomeningeal enhancement on MRI with abdnormal CSF.
   #Abnormal MRI: In setting of confusing  constellation of symptoms which
   we would like to tie together into unifying diagnosis, the presence of
   CNS involvement, specifically the leptomeninges raises concern for
   possible infectious etiologies: less likely typical bacterial
   meningitis due to duration of symptoms, consider viral etiologies (HSV,
   CMV, EBV, VZV, HHV6), TB, Syphilis, ehrilichia, leptospira, lyme;
   lymphoma, inflammatory conditions: neurosarcoidosis, SLE.  LP yesterday
   very difficulty with low opening pressures and low CSF yield.  Very
   limited in initial studies able to perform.  On early results CSF is
   abnormal for 250 WBC with elevated protein and 73%
other
 cells on
   differential.  Contact[**Name (NI) **] by heme path with early impression CSF being
   cellular with apparently reactive lymphocytes, they recommend flow
   cytometry to further characterize.  At this point differential remains
   broad.  RPR is positive, however not necessarily c/w syphillis as false
   positive in many of other conditions we are considering, also remain
   concerned for CNS malignancy, inflammatory d/o, viral or atypical
   bacterial infection.
   -appreciate neuro assistance, priority today to repeat LP with goal of
   sending 4cc for cytology to general path and 4cc to heme path for flow
   cytometry, needs to be hand carried to heme path lab on 3^rd floor,
   resident to arrange [**Numeric Identifier 2388**].
   -appreciate ID involvement. Will prioritize additional studies to
   include first EBV, CMV and VZV PCR, lower on list is HSV and HHV6 PCR,
   would also like TB culture or PCR whichever has lower volume
   requirement.
   -f/u VDRL, lyme serologies
   -hold on add
l antimicrobials for now.
   -difficult blood draw today, did not have enough sample for
   cryptococcal ag, EBV or CMV VL.  Will re-attempt this afternoon.
   # PULM: Tachypnea and hypoxia/mediastinal LAD
Current differential
   diagnosis includes CHF, pneumonia, unlikely PCP given HIV negative
   status, unlikely  PE or pericardial effusion given negative CTA.
   Slight delayed bubbles on TTE raise possiblity of pulmonary AVMs.    No
   profound anemia.  Has appearance of CHF on CXR, however has not
   improved with diuresis, BNP not significantly elevated and hypoxia
   seems out of proportion to other findings, no elevated JVP.    Unclear
   etiology. CT did not show impressive septation suggestive of pulmonary
   fibrosis.  Consider inflammatory process, sarcoid, SLE especially in
   setting of  mediastinal LAD.  LAD also suspicious for neoplasm,
   although unclear how this would explain hypoxia based on CT.  Has
   persistent 02 requirement of 5-6L, desats when laying down.
   -PPD negative
   -f/u b-glucan, galactomannan
   -emailed Dr. [**Last Name (STitle) 2384**] re ? significance of  late bubbles on TTE
   -d/c levaquin, has completed 1 week of abx for weak suspicion of PNA,
   no evidence for bacterial infection as etiology for hypoxia.
   -CT abd/pelvis this am to eval for ? add
l LAD, any target more
   amenable for biopsy than sub carinal node
   -NPO for now with consideration of bronch today, after eval CT
   abd/pelvis.  Would get platelets prior to bronch.  [**Month (only) 60**] require
   intubation.
   -supplemental 02 prn.
   #LFT abnormalities:  Pt has transaminitis >1000s, AST/ALT ratio ~2:1.
   Ddx for this degree of transaminitis includes ETOH hepatitis,
   medications (ie tylenol), shock liver, viral hepatitis.  Less likely
   [**Location (un) 2325**]
s, autoimmune. Consider HHC as  Fe/TIBC ration close to 45%.
   TSH WNL.  [**Doctor First Name 1205**] positive with high/normal titer.  Hepatitis serologies
   negative for HBV, HCV and acute HAV.  Given the rapid downward trend in
   pt
s LFTs, more likely to be acute infectious or toxic process.
   - Hepatology input appreciated, covering with doxycycline empirically
   for leptospira.  Have d/w ID, will continue for now, re-evaluate when
   serologies back.
   - TTG nl, sprue unlikely
   -acetaminophen nl
   -f/u vHHC mutation, ceruloplasmin, 24 urine copper collection results
   pending.
   -continue to trend LFTs.
    #Hyperkalemia- K 5.7 this am in moderately hemolyzed specimen
   -repeat K at noon
   -check EKG
   # Hyponatremia
 Na decreased further from 132 to 128.  Pt reportedly
   not compliant with fluid restriction. On yesterday
s urine lytes,
   feUrea nl but urine Na <10, with elevated urine osm, most c/w
   hypovolemic hyponatremia, esp as pt
s HR and BUN/Cr have declined
   overnight with IVF challenge.
   -Continue free h20 restriction
   -1L NS bolus this am with maintenance NS while NPO
   -repeat Na this afternoon
   -Continue to monitor
   #Thrombotytopenia.  Nl platelets 2 years ago, 115 on admission, 88
   now.  No stigmata of liver disease on exam.  LDH markedly elevated.
   Ddx for thrombocytopenia most likely is liver disease versus medication
   effect.  Combination of elevated LDH and ferritin in setting of
   enlarged spleen and neurologic abnormalities is suggestive of HLH
   however does not meet criteria.  Pt had low platelets on admission with
   steady drop.  Timing not c/w HIT.  Still avoiding heparin products for
   bleeding risk but ok to get for lines if necessary.   Peripheral smear
   showed thrombocytopenia with large platelets.
   -fibrinogen low but FDP nl, not picture of DIC
   -d/c levaquin as above, may cause thrombocytopenia
   -Transfuse platelets for <50, have active T+S ready
   -no need for heparin SC at this time for PPX given low platelets with
   abnomal coags
   #Nutrition
 Albumin 2.5, pt profoundly malnourished with poor PO
   intake complicated by inadequate alimentation in ICU due to
   procedurization.
   -nutrition c/s for ? supplements, calorie counds.
   -PICC for ? TPN although would want to avoid if at all possible due to
   increased risk of infection/ complications
   ICU Care
   Nutrition: NPO, advance as soon as decision made re bronch
   Glycemic Control:  controlled
   Lines:
   20 Gauge - [**2111-5-12**] 08:45 PM
   Attempt PICC, needs to go to IR, failed at bedside
   Prophylaxis:
   DVT: Pneumoboots, avoiding heparin for elevated INR and low platelets
   Stress ulcer: PPI
   VAP:  n/a
   Comments:
   Communication:  Comments: HCP [**Name (NI) 2331**], and brother
   [**Name (NI) 66**] status: Full code
   Disposition:ICU

2111-05-14 10:03:00 Physician Attending Progress Note
Chief Complaint: hypoxia, tachycardia, resp distress
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note, including assessment and plan.
   HPI:
   48 yo woman with multiorgan dysfunction, including:
          brain abnormalities- leptomeningeal process
          hypoxemia, tachypnea
          chest LAD and interstitial opacification which appeared to
   be pulmonary edema but which may be infiltrative process
          LFT abnormalities
          thrombocytopenia
          ARF
   24 Hour Events:
   LP done: WBC250, 73% other, mild elev protein.
   ID rec no change to abx bcse not suggestive of bacterial meningitis.
   Allergies:
   Zithromax (Oral) (Azithromycin)
   otoxocity
   visi
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue, feels warm. Eager to eat and drink.
   Eyes: No(t)  Blurry vision
   Cardiovascular: No(t) Chest pain, No(t) Palpitations
   Nutritional Support: NPO
   Respiratory: dyspnea improved, now comfortable
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea
   Genitourinary: No(t) Dysuria
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Neurologic: No(t) Headache
   Psychiatric / Sleep: Slept well
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2111-5-14**] 10:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.3
C (97.3
   HR: 114 (108 - 139) bpm
   BP: 94/55(71) {89/26(31) - 118/73(78)} mmHg
   RR: 37 (23 - 38) insp/min
   SpO2: 98% on 6L NC
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 64 Inch
             Total In:
                                                                  4,342 mL
                                                                  1,530 mL
   PO:
                                                                  1,290 mL
                                                                    450 mL
   TF:
   IVF:
                                                                  3,052 mL
                                                                  1,080 mL
   Blood products:
   Total out:
                                                                  1,250 mL
                                                                    580 mL
   Urine:
                                                                  1,220 mL
                                                                    580 mL
   NG:
                                                                     30 mL
   Stool:
   Drains:
   Balance:
                                                                  3,092 mL
                                                                    950 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 91%
   ABG: ///24/
   Physical Examination
   General Appearance: Well nourished, weak, lethargic but not in
   distress, not visibly anxious
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL, Supraclavicular WNL, No(t) Cervical
   adenopathy, no palpable axillary LAD
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: No(t)
   Crackles : , Diminished: bilat 1/2 up), no crackles
   Abdominal: Soft, Non-tender, No(t) Distended
   Extremities: Right: Absent, Left: Absent
   Musculoskeletal: No(t) Muscle wasting
   Skin:  Cool, No(t) Rash: , No(t) Jaundice, (puts ice packs on her skin)
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x3, Movement: Purposeful, No(t) Sedated, Tone:
   Not assessed
   Labs / Radiology
   14.2 g/dL
   54 K/uL
   134 mg/dL
   0.9 mg/dL
   24 mEq/L
   5.7 mEq/L
   30 mg/dL
   96 mEq/L
   128 mEq/L
   42.0 %
   12.5 K/uL
        [image002.jpg]
                             [**2111-5-10**]  12:13 PM
                             [**2111-5-10**]  07:24 PM
                             [**2111-5-10**]  09:35 PM
                             [**2111-5-11**]  04:16 AM
                             [**2111-5-12**]  02:45 AM
                             [**2111-5-13**]  04:25 AM
                             [**2111-5-14**]  04:35 AM
   WBC
   8.8
   9.1
   11.4
   12.5
   Hct
   43.4
   41.5
   41.8
   42.0
   Plt
   88
   89
   76
   54
   Cr
   0.9
   1.1
   1.1
   0.9
   TropT
   <0.01
   TCO2
   29
   30
   Glucose
   117
   142
   124
   134
   Other labs: PT / PTT / INR:16.5/33.8/1.5, CK / CKMB /
   Troponin-T:185/2/<0.01, ALT / AST:725/829, Alk Phos / T Bili:179/1.3,
   Differential-Neuts:85.0 %, Band:4.0 %, Lymph:5.0 %, Mono:2.0 %, Eos:0.0
   %, Fibrinogen:126 mg/dL, Albumin:2.5 g/dL, LDH:1616 IU/L, Ca++:7.2
   mg/dL, Mg++:2.8 mg/dL, PO4:2.3 mg/dL
   Assessment and Plan
   48 yo woman with multisystem abnormalities including brain, lung,
   lymphadenopathy, liver, platelets:
   Initially presented with mild fevers, headache, nausea, hearing loss,
   hypoxemia, tachypnea, tachycardia, leukopenia. No joint inflammation or
   rashes. [**Doctor First Name 1205**]+ 1:160. CTPA neg for PE. Pleural effusions small.
   Lab data: WBC continues to rise. Thrombocytopenia worse. Cr now at
   baseline. Hyponatremia persistant. LFTs with decreased transaminases
   and LDH, rising alk phos. No coags obtained today. FENA < 10%. Severely
   hypoalbuminemic.
   New CSF data.
   MRI brain abnormalities- leptomeningeal process- CSF confusing- doesn
   suggest bacterial process. Path appears reactive lymphocytes. Diff dx
   broad, including viral encephalitis, lupus cerebritis, neurosarcoid,
   less likely lymphoma, infection. It is interesting that she is
   clinically improving with hydration and CAP coverage.
   Pulmonary: persistant severe hypoxemia with interstitial opacification
   and chest LAD which appeared to be pulmonary edema but seems more
   likely infiltrative process. No improvement in oxygenation or
   radiographic appearance with diuresis. This still could be pulmonary
   edema, but it is also possible this could represent sarcoid,
   pneumonitis, less likely lymphangitic carcinomatosis given lack of h/o
   weight loss, chronicity.
   LFT abnormalities rapidly improving are more consistent with shock
   liver or toxic exposure or acute infection, but nothing in her history
   suggests these. She was never hypotensive, no lactic acidosis (just
   dehydrated) and had no h/o ingestion. With this rapid improvement it
   seems hard to attribute to sarcoid or malignancy.
   Thrombocytopenia, progressive
   ARF resolved
   Dehydrated: thought she was in pulm edema, got diuresed with no
   improvement in oxygenation. Initial BNP 500. Tachycardia and mental
   status improved with 3L + net fluid balance today. Urine output approx
   70cc/h.
   Mild hyponatremia - possibly with SIADH- did not abide by free water
   restriction.
   - CT abd to eval for abd lymphadenopathy
   - if no abd CT will bronch for TBNA and subcarinal TNA - not TBBx  with
   thrombocytopenia
   - d/c levofloxacin
   - thrombocytopenia- stop antibiotics, give platelets prior to bronch
   ICU Care
   Nutrition: PO diet after abd CT and bronch
   Lines:
   20 Gauge - [**2111-5-12**] 08:45 PM
   Prophylaxis:
   DVT: Boots
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 80 minutes
   Patient is critically ill with severe hypoxemia which may require
   ventilatory assistance.

2111-05-15 07:46:00 Physician Resident Progress Note
Chief Complaint: 48F with confusing constellation of symptoms and lab
   abnormalities, as of yet unexplained: hypoxia and tachypnea,
   tachycardia, hearing loss, altered mental status,  elevated LFTs,
   thrombocytopenia, mediastinal LAD, leptomeningeal enhancement on MRI
   with abnormal CSF
   24 Hour Events:
 EKG - At [**2111-5-14**] 07:59 AM
 PICC LINE - START [**2111-5-14**] 02:00 PM
 BLOOD CULTURED - At [**2111-5-15**] 06:22 AM
   - PICC placed
   - Abd CT performed with minimal PO contrast as pt not able to tolerate
   - Prelim read showing no pathologically enlarged lymph nodes, ascites
   and mod bilateral pleural effusions mostly c/w third spacing, diffuse
   hypodense thickening of the stomach likely due to volume overload, but
   cannot r/o pathology such as gastric lymphoma
   - All serologies sent now that PICC in place
   - PM Na of 130 (128), K 4.8 (5.7), Plat 99 (54)
   - Plan for LP by Neuro at 10:00 am, coordinated with heme-path (will
   need to walk tubes down to heme in chem lab)
   Allergies:
   Zithromax (Oral) (Azithromycin)
   otoxocity
   visi
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2111-5-14**] 11:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2111-5-15**] 07:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (101
   Tcurrent: 38.3
C (101
   HR: 90 (90 - 128) bpm
   BP: 114/62(74) {88/47(58) - 120/85(94)} mmHg
   RR: 19 (19 - 39) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
             Total In:
                                                                  4,796 mL
                                                                  1,728 mL
   PO:
                                                                  1,340 mL
                                                                    250 mL
   TF:
   IVF:
                                                                  3,215 mL
                                                                  1,161 mL
   Blood products:
   Total out:
                                                                  1,574 mL
                                                                    760 mL
   Urine:
                                                                  1,574 mL
                                                                    760 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,222 mL
                                                                    968 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///27/
   Physical Examination
   General Appearance: Anxious, alert and oriented, still tachpneic but
   less than yesterday.
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic. No elevated JVP
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: Tachycardic, unable to appreciated MRG
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: rapid shallow breathing, very diminished breath
   sounds with no audible rales
   Abdominal: Soft, Non-tender, Bowel sounds present, spleen tip palpable.
   No RUQ tenderness.
   Extremities: No edema, distal pulsesl palpable
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed. No asterixes.
   Hearing impairment improved.  Anxious/depressed affect
   Labs / Radiology
   105 K/uL
   11.2 g/dL
   124 mg/dL
   0.6 mg/dL
   27 mEq/L
   4.3 mEq/L
   26 mg/dL
   104 mEq/L
   136 mEq/L
   33.0 %
   13.9 K/uL
        [image002.jpg]
                             [**2111-5-10**]  12:13 PM
                             [**2111-5-10**]  07:24 PM
                             [**2111-5-10**]  09:35 PM
                             [**2111-5-11**]  04:16 AM
                             [**2111-5-12**]  02:45 AM
                             [**2111-5-13**]  04:25 AM
                             [**2111-5-14**]  04:35 AM
                             [**2111-5-14**]  02:41 PM
                             [**2111-5-15**]  04:24 AM
   WBC
   8.8
   9.1
   11.4
   12.5
   13.0
   13.9
   Hct
   43.4
   41.5
   41.8
   42.0
   36.0
   33.0
   Plt
   88
   89
   76
   54
   99
   105
   Cr
   0.9
   1.1
   1.1
   0.9
   0.6
   TropT
   <0.01
   TCO2
   29
   30
   Glucose
   117
   142
   124
   134
   124
   Other labs: PT / PTT / INR:15.8/28.2/1.4, CK / CKMB /
   Troponin-T:185/2/<0.01, ALT / AST:411/291, Alk Phos / T Bili:130/0.9,
   Differential-Neuts:85.0 %, Band:4.0 %, Lymph:5.0 %, Mono:2.0 %, Eos:0.0
   %, Fibrinogen:126 mg/dL, Albumin:2.5 g/dL, LDH:693 IU/L, Ca++:6.6
   mg/dL, Mg++:2.6 mg/dL, PO4:2.1 mg/dL
   Assessment and Plan
   48F with confusing constellation of symptoms and lab abnormalities, as
   of yet unexplained: hypoxia and tachypnea, tachycardia, hearing loss,
   altered mental status,  elevated LFTs, thrombocytopenia, mediastinal
   LAD, leptomeningeal enhancement on MRI with abnormal CSF.
    #Abnormal MRI: In setting of confusing  constellation of symptoms
   which we would like to tie together into unifying diagnosis, the
   presence of CNS involvement, specifically the leptomeninges raises
   concern for possible infectious etiologies: less likely typical
   bacterial meningitis due to duration of symptoms, consider viral
   etiologies (HSV, CMV, EBV, VZV, HHV6), TB, Syphilis, ehrilichia,
   leptospira, lyme; lymphoma, inflammatory conditions: neurosarcoidosis,
   SLE.  LP yesterday very difficulty with low opening pressures and low
   CSF yield.  Very limited in initial studies able to perform.  On early
   results CSF is abnormal for 250 WBC with elevated protein and 73%
other
 cells on differential.  Contact[**Name (NI) **] by heme path with early
   impression CSF being cellular with apparently reactive lymphocytes,
   they recommend flow cytometry to further characterize.  At this point
   differential remains broad.  RPR is positive, however not necessarily
   c/w syphillis as false positive in many of other conditions we are
   considering, also remain concerned for CNS malignancy, inflammatory
   d/o, viral or atypical bacterial infection.
   -appreciate neuro assistance, priority today to repeat LP with goal of
   sending 4cc for cytology to general path and 4cc to heme path for flow
   cytometry, needs to be hand carried to heme path lab on [**Location (un) 1508**],
   resident to arrange [**Numeric Identifier 2388**].
   -appreciate ID involvement. Will prioritize additional studies to
   include first EBV, CMV and VZV PCR, lower on list is HSV and HHV6 PCR,
   would also like TB culture or PCR whichever has lower volume
   requirement.
   -f/u VDRL, lyme serologies
   -hold on add
l antimicrobials for now.
   -difficult blood draw today, did not have enough sample for
   cryptococcal ag, EBV or CMV VL.  Will re-attempt this afternoon.
   # PULM: Tachypnea and hypoxia/mediastinal LAD
Current differential
   diagnosis includes CHF, pneumonia, unlikely PCP given HIV negative
   status, unlikely  PE or pericardial effusion given negative CTA.
   Slight delayed bubbles on TTE raise possiblity of pulmonary AVMs.    No
   profound anemia.  Has appearance of CHF on CXR, however has not
   improved with diuresis, BNP not significantly elevated and hypoxia
   seems out of proportion to other findings, no elevated JVP.    Unclear
   etiology. CT did not show impressive septation suggestive of pulmonary
   fibrosis.  Consider inflammatory process, sarcoid, SLE especially in
   setting of  mediastinal LAD.  LAD also suspicious for neoplasm,
   although unclear how this would explain hypoxia based on CT.  Has
   persistent 02 requirement of 5-6L, desats when laying down.
   -PPD negative
   -f/u b-glucan, galactomannan
   -emailed Dr. [**Last Name (STitle) 2384**] re ? significance of  late bubbles on TTE
   -d/c levaquin, has completed 1 week of abx for weak suspicion of PNA,
   no evidence for bacterial infection as etiology for hypoxia.
   -CT abd/pelvis this am to eval for ? add
l LAD, any target more
   amenable for biopsy than sub carinal node
   -NPO for now with consideration of bronch today, after eval CT
   abd/pelvis.  Would get platelets prior to bronch.  [**Month (only) 60**] require
   intubation.
   -supplemental 02 prn.
   #LFT abnormalities:  Pt has transaminitis >1000s, AST/ALT ratio ~2:1.
   Ddx for this degree of transaminitis includes ETOH hepatitis,
   medications (ie tylenol), shock liver, viral hepatitis.  Less likely
   [**Location (un) 2325**]
s, autoimmune. Consider HHC as  Fe/TIBC ration close to 45%.
   TSH WNL.  [**Doctor First Name 1205**] positive with high/normal titer.  Hepatitis serologies
   negative for HBV, HCV and acute HAV.  Given the rapid downward trend in
   pt
s LFTs, more likely to be acute infectious or toxic process.
   - Hepatology input appreciated, covering with doxycycline empirically
   for leptospira.  Have d/w ID, will continue for now, re-evaluate when
   serologies back.
   - TTG nl, sprue unlikely
   -acetaminophen nl
   -f/u vHHC mutation, ceruloplasmin, 24 urine copper collection results
   pending.
   -continue to trend LFTs.
    #Hyperkalemia- K 5.7 this am in moderately hemolyzed specimen
   -repeat K at noon
   -check EKG
   # Hyponatremia
 Na decreased further from 132 to 128.  Pt reportedly
   not compliant with fluid restriction. On yesterday
s urine lytes,
   feUrea nl but urine Na <10, with elevated urine osm, most c/w
   hypovolemic hyponatremia, esp as pt
s HR and BUN/Cr have declined
   overnight with IVF challenge.
   -Continue free h20 restriction
   -1L NS bolus this am with maintenance NS while NPO
   -repeat Na this afternoon
   -Continue to monitor
   #Thrombotytopenia.  Nl platelets 2 years ago, 115 on admission, 88
   now.  No stigmata of liver disease on exam.  LDH markedly elevated.
   Ddx for thrombocytopenia most likely is liver disease versus medication
   effect.  Combination of elevated LDH and ferritin in setting of
   enlarged spleen and neurologic abnormalities is suggestive of HLH
   however does not meet criteria.  Pt had low platelets on admission with
   steady drop.  Timing not c/w HIT.  Still avoiding heparin products for
   bleeding risk but ok to get for lines if necessary.   Peripheral smear
   showed thrombocytopenia with large platelets.
   -fibrinogen low but FDP nl, not picture of DIC
   -d/c levaquin as above, may cause thrombocytopenia
   -Transfuse platelets for <50, have active T+S ready
   -no need for heparin SC at this time for PPX given low platelets with
   abnomal coags
   #Nutrition
 Albumin 2.5, pt profoundly malnourished with poor PO
   intake complicated by inadequate alimentation in ICU due to
   procedurization.
   -nutrition c/s for ? supplements, calorie counds.
   -PICC for ? TPN although would want to avoid if at all possible due to
   increased risk of infection/ complications
   ICU Care
   Nutrition:
   TPN without Lipids - [**2111-5-14**] 06:08 PM 41 mL/hour
   Glycemic Control:
   Lines:
   22 Gauge - [**2111-5-14**] 01:00 PM
   PICC Line - [**2111-5-14**] 02:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2111-05-15 10:25:00 Physician Attending Progress Note
Chief Complaint: severe hypoxemia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI: 48 yo woman with multiorgan dysfunction, including:
          brain abnormalities- leptomeningeal process with CSF
   leukocytosis, never with meningismus or overt encephalitis
          severe hypoxemia, tachypnea
          chest LAD and interstitial opacification which appeared to
   be pulmonary edema but which may be infiltrative process
          LFT abnormalities and thrombocytopenia, both improving
   24 Hour Events:
   Lyme serology neg.
   Started on TPN.
   Repeat LP done this morning.
   Initial impression on CSF cells is likely reactive.
   Allergies:
   Zithromax (Oral) (Azithromycin)
   otoxocity
   visi
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2111-5-15**] 08:35 AM
   Other medications:
   PPI
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue, Fever, chills
   Flowsheet Data as of  [**2111-5-15**] 10:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (101
   Tcurrent: 35.3
C (95.6
   HR: 96 (90 - 128) bpm
   BP: 115/72(82) {88/47(58) - 126/85(94)} mmHg
   RR: 19 (19 - 39) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
             Total In:
                                                                  4,796 mL
                                                                  2,031 mL
   PO:
                                                                  1,340 mL
                                                                    250 mL
   TF:
   IVF:
                                                                  3,215 mL
                                                                  1,366 mL
   Blood products:
   Total out:
                                                                  1,574 mL
                                                                    905 mL
   Urine:
                                                                  1,574 mL
                                                                    905 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,222 mL
                                                                  1,126 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///27/
   Physical Examination
   General Appearance: Well nourished, lethargic, no meningismus, neck
   supple
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   1/2 up bilaterally), taking much deeper breaths
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right: Absent, Left: Absent
   Musculoskeletal: No(t) Muscle wasting
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Movement: Not assessed, Sedated, Tone: Not assessed, received ativan
   for LP. Prior to ativan was alert and oriented, lucid.
   Labs / Radiology
   11.2 g/dL
   105 K/uL
   124 mg/dL
   0.6 mg/dL
   27 mEq/L
   4.3 mEq/L
   26 mg/dL
   104 mEq/L
   136 mEq/L
   33.0 %
   13.9 K/uL
        [image002.jpg]
                             [**2111-5-10**]  12:13 PM
                             [**2111-5-10**]  07:24 PM
                             [**2111-5-10**]  09:35 PM
                             [**2111-5-11**]  04:16 AM
                             [**2111-5-12**]  02:45 AM
                             [**2111-5-13**]  04:25 AM
                             [**2111-5-14**]  04:35 AM
                             [**2111-5-14**]  02:41 PM
                             [**2111-5-15**]  04:24 AM
   WBC
   8.8
   9.1
   11.4
   12.5
   13.0
   13.9
   Hct
   43.4
   41.5
   41.8
   42.0
   36.0
   33.0
   Plt
   88
   89
   76
   54
   99
   105
   Cr
   0.9
   1.1
   1.1
   0.9
   0.6
   TropT
   <0.01
   TCO2
   29
   30
   Glucose
   117
   142
   124
   134
   124
   Other labs: PT / PTT / INR:15.8/28.2/1.4, CK / CKMB /
   Troponin-T:185/2/<0.01, ALT / AST:411/291, Alk Phos / T Bili:130/0.9,
   Differential-Neuts:85.0 %, Band:4.0 %, Lymph:5.0 %, Mono:2.0 %, Eos:0.0
   %, Fibrinogen:126 mg/dL, Albumin:2.5 g/dL, LDH:693 IU/L, Ca++:6.6
   mg/dL, Mg++:2.6 mg/dL, PO4:2.1 mg/dL
   Assessment and Plan
   48 yo woman with multisystem abnormalities including brain, lung,
   lymphadenopathy, liver, platelets:
   Initially presented with mild fevers, headache, nausea, hearing loss,
   hypoxemia, tachypnea, tachycardia, leukopenia. No joint inflammation or
   rashes. [**Doctor First Name 1205**]+ 1:160. CTPA neg for PE. Exam has never suggested
   meningismus or significant encephalitis.
   Lab data: WBC continues to rise on steroids. Thrombocytopenia and LFTs
   rapidly normalizing. Hyponatremia improving on NS. Severely
   hypoalbuminemic.
   MRI brain abnormalities- leptomeningeal process- but without clinical
   meningitis or encephalitis- CSF confusing- doesn
t suggest bacterial
   process. Path appears reactive lymphocytes.
   Pulmonary: persistant severe hypoxemia with interstitial opacification
   and chest LAD
   DDx: pulmonary edema, infiltrative/inflammatory process, inflammation
   and capillary leak with noncardiogenic pulm edema.
   Resp status improved despite 3L+.
   LFT abnormalities again markedly improved. Seems more consistent with
   postinflammatory hepatitis, acute infection. No period of hyptotension
   to explain shock liver, no h/o toxic ingestion. With this rapid
   improvement it seems hard to attribute to sarcoid or malignancy, but
   that remains in the differential.
   Diff dx extremely broad. Greatly value ID and neuro input.
   Overall she has improved in mental status (less fatigued, more
   alert/interactive
though perhaps this is because she was very
   dehydrated and has been approx 14L net positive over LOS, not
   accounting for insensible losses), marked improvement in LFTs,
   platelets. Respiratory status is a little confusing: she is breathing
   much more comfortably today despite >3L+ but she has a persistant very
   high FiO2 requirement. Antibiotics were stopped yesterday morning so
   she has had this clinical improvement on doxy/[**Last Name (LF) 2402**], [**First Name3 (LF) **] she has some
   process that either is resolving spontaneously or responsive to those
   abx.
   Infectious:
          viral encephalitis (EBV, CMV, VZV, arbovirus)
          viral infection with systemic infection inducing acute
   hepatitis and concomitant CHF or viral pneumonia
          ID service raises question of lymphocytochoriomeningitis
   virus (rodent vector)
          Bacterial infections that may have responded would include
   erlichiosis, leptospirosis, q fever. (She has been dealing with mice in
   her house.)
          post-infectious inflammatory injury: secondary to viral
   infection or mycoplasma
   -          mycoplasma could cause postinfectious encephalitis with
   liver involvement and myocarditis that might make her more prone to CHF
   less likely: noninfectious
          lymphoma with pulm edema or lymphangitic spread
          lupus cerebritis
          neurosarcoid
          malignancy with lymphangitic carcinomatosis- odd that LFTs
   would be improving so quickly but concerning given severe hypoxemia
 LP data pending, will have flow this afternoon
 will hold off on bronch because I think the yield is fairly low and
   she would have to be intubated for procedure given her hypoxemia and
   anxiety. The main diagnoses that would be revealed by bronch are the
   noninfectious, and do not require urgent intervention, such as
   lymphoma, sarcoid, lymphangitic spread.
   Volume status confusing
initially thought to be in pulm edema, but echo
   showed IVC small and collapsed with respirations indicating no
   increased RAP, and got diuresed (-1.5L) with no improvement in
   oxygenation. Initial BNP 500. Tachycardia and mental status improved
   with 3L + net fluid balance today.
   Thrombocytopenia, improving rapidly.
   Coagulopathy with INR 1.4, PTT 28.2.
   ARF resolved
   Mild hyponatremia - possibly with SIADH- improving with NS
   resuscitation.
   DVT prophylaxis- will restart sc heparin after bronch as plt count
   nearly normal, on pneumoboots.
   Double lumen picc.
   ICU Care
   Nutrition:
   TPN without Lipids - [**2111-5-14**] 06:08 PM 41 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2111-5-14**] 02:00 PM
   Prophylaxis:
   DVT: boots
   Communication:  Comments: will discuss with pt and her family, health
   care proxy
   [**Name (NI) 66**] status: Full code
   Disposition : ICU
   Total time spent: 100

2111-05-15 18:54:00 Physician Resident Progress Note
Chief Complaint: 48F with confusing constellation of symptoms and lab
   abnormalities, as of yet unexplained: hypoxia and tachypnea,
   tachycardia, hearing loss, altered mental status,  elevated LFTs,
   thrombocytopenia, mediastinal LAD, leptomeningeal enhancement on MRI
   with abnormal CSF
   24 Hour Events:
 EKG - At [**2111-5-14**] 07:59 AM
 PICC LINE - START [**2111-5-14**] 02:00 PM
 BLOOD CULTURED - At [**2111-5-15**] 06:22 AM
   - PICC placed
   - Abd CT performed with minimal PO contrast as pt not able to tolerate
   - Prelim read showing no pathologically enlarged lymph nodes, ascites
   and mod bilateral pleural effusions mostly c/w third spacing, diffuse
   hypodense thickening of the stomach likely due to volume overload, but
   cannot r/o pathology such as gastric lymphoma
   - All serologies sent now that PICC in place
   - PM Na of 130 (128), K 4.8 (5.7), Plat 99 (54)
   - Plan for LP by Neuro at 10:00 am, coordinated with heme-path (will
   need to walk tubes down to heme in chem lab)
   Allergies:
   Zithromax (Oral) (Azithromycin)
   otoxocity
   visi
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2111-5-14**] 11:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2111-5-15**] 07:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (101
   Tcurrent: 38.3
C (101
   HR: 90 (90 - 128) bpm
   BP: 114/62(74) {88/47(58) - 120/85(94)} mmHg
   RR: 19 (19 - 39) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
             Total In:
                                                                  4,796 mL
                                                                  1,728 mL
   PO:
                                                                  1,340 mL
                                                                    250 mL
   TF:
   IVF:
                                                                  3,215 mL
                                                                  1,161 mL
   Blood products:
   Total out:
                                                                  1,574 mL
                                                                    760 mL
   Urine:
                                                                  1,574 mL
                                                                    760 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,222 mL
                                                                    968 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///27/
   Physical Examination
   General Appearance: sleepy after ativan dose, still tachpneic but less
   than yesterday.
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic. No elevated JVP
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: Tachycardic, unable to appreciate MRG
   Respiratory / Chest: rapid shallow breathing but less so than
   yesterday; BS throughout lung fields. Otherwise clear
   Abdominal: Soft, Non-tender, Bowel sounds present, spleen tip palpable.
   No RUQ tenderness.
   Extremities: No edema, distal pulsesl palpable
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed. No asterixisis.
   Anxious/depressed affect
   Labs / Radiology
   105 K/uL
   11.2 g/dL
   124 mg/dL
   0.6 mg/dL
   27 mEq/L
   4.3 mEq/L
   26 mg/dL
   104 mEq/L
   136 mEq/L
   33.0 %
   13.9 K/uL
        [image002.jpg]
                             [**2111-5-10**]  12:13 PM
                             [**2111-5-10**]  07:24 PM
                             [**2111-5-10**]  09:35 PM
                             [**2111-5-11**]  04:16 AM
                             [**2111-5-12**]  02:45 AM
                             [**2111-5-13**]  04:25 AM
                             [**2111-5-14**]  04:35 AM
                             [**2111-5-14**]  02:41 PM
                             [**2111-5-15**]  04:24 AM
   WBC
   8.8
   9.1
   11.4
   12.5
   13.0
   13.9
   Hct
   43.4
   41.5
   41.8
   42.0
   36.0
   33.0
   Plt
   88
   89
   76
   54
   99
   105
   Cr
   0.9
   1.1
   1.1
   0.9
   0.6
   TropT
   <0.01
   TCO2
   29
   30
   Glucose
   117
   142
   124
   134
   124
   Other labs: PT / PTT / INR:15.8/28.2/1.4, CK / CKMB /
   Troponin-T:185/2/<0.01, ALT / AST:411/291, Alk Phos / T Bili:130/0.9,
   Differential-Neuts:85.0 %, Band:4.0 %, Lymph:5.0 %, Mono:2.0 %, Eos:0.0
   %, Fibrinogen:126 mg/dL, Albumin:2.5 g/dL, LDH:693 IU/L, Ca++:6.6
   mg/dL, Mg++:2.6 mg/dL, PO4:2.1 mg/dL
   Assessment and Plan
   48F with confusing constellation of symptoms and lab abnormalities, as
   of yet unexplained: hypoxia and tachypnea, tachycardia, hearing loss,
   altered mental status,  elevated LFTs, thrombocytopenia, mediastinal
   LAD, leptomeningeal enhancement on MRI with abnormal CSF.
    #Abnormal MRI: meningeal enhancement, but LP still not diagnostic.
   WBC/RBC present, but other serologies still pending.  Cultures still
   pending.  Differential still broad; though seems to be most likely
   viral or rheumatologic rather than bacterial, though still possible
   - neuro repeated LP this AM.  Awaiting flow cytometry.  New cell counts
   with more lymphocytosis rather than atypicals
   -appreciate ID involvement. All serologies currently pending.  Will f/u
   ID recs
   - restart doxycycline for now until leptospira serology returns
   -f/u treponemal antibody. Lyme negative
   - f/u CSF cultures
   - cont doxy per ID recs for ? leptospirosis.  Awaiting serologies
   # Pulm: unclear etiology; still has O2 requirement, and continues to be
   tachypneic.  Unlikely to be pulmonary edema especially since patient is
   now net positive, but is doing better renal/tachycardia.
   -PPD negative
   -after discussing with cards, felt that late bubbles on ECHO are
   consistent with pulm AVMs
   -CT abdomen/pelvis did not reveal any lymphadenopathy, but did show
   ascites.  It is possible that she is third spacing fluid into her
   lungs, but is intra-vascular volume deplete
   -supplemental 02 prn.
   #LFT abnormalities:  Improving; still no clear etiology.
   - Hepatology input appreciated, covering with doxycycline empirically
   for leptospira.  Have d/w ID, will continue for now, re-evaluate when
   serologies back.
   -f/u vHHC mutation, ceruloplasmin, 24 urine copper collection results
   pending.
   -continue to trend LFTs.
    #Hyperkalemia- resolved; cont to monitor
   # Hyponatremia
 improved with
   #Thrombotytopenia.  Nl platelets 2 years ago, 115 on admission, 88
   now.  No stigmata of liver disease on exam.  LDH markedly elevated.
   Ddx for thrombocytopenia most likely is liver disease versus medication
   effect.  Combination of elevated LDH and ferritin in setting of
   enlarged spleen and neurologic abnormalities is suggestive of HLH
   however does not meet criteria.  Pt had low platelets on admission with
   steady drop.  Timing not c/w HIT.  Still avoiding heparin products for
   bleeding risk but ok to get for lines if necessary.   Peripheral smear
   showed thrombocytopenia with large platelets.
   -fibrinogen low but FDP nl, not picture of DIC
   -d/c levaquin as above, may cause thrombocytopenia
   -Transfuse platelets for <50, have active T+S ready
   -no need for heparin SC at this time for PPX given low platelets with
   abnomal coags
   #Nutrition
 Albumin 2.5, pt profoundly malnourished with poor PO
   intake complicated by inadequate alimentation in ICU due to
   procedurization.
   -nutrition c/s for ? supplements, calorie counds.
   -PICC for ? TPN although would want to avoid if at all possible due to
   increased risk of infection/ complications
   ICU Care
   Nutrition:
   TPN without Lipids - [**2111-5-14**] 06:08 PM 41 mL/hour
   Glycemic Control:
   Lines:
   22 Gauge - [**2111-5-14**] 01:00 PM
   PICC Line - [**2111-5-14**] 02:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2111-05-16 07:43:00 Physician Resident Progress Note
Chief Complaint: 48F with confusing constellation of symptoms and lab
   abnormalities, as of yet unexplained: hypoxia and tachypnea,
   tachycardia, hearing loss, altered mental status,  elevated LFTs,
   thrombocytopenia, mediastinal LAD, leptomeningeal enhancement on MRI
   with abnormal CSF.
   24 Hour Events:
 LUMBAR PUNCTURE - At [**2111-5-15**] 09:48 AM
 BLOOD CULTURED - At [**2111-5-15**] 10:30 AM
 FEVER - 101.9
F - [**2111-5-15**] 06:00 PM
   - prelim fluid (per pathology) showed T-lymphomcytes- almost even
   CD4/CD8. few B cells.  no evidence of malignancy. more c/w reactive.
   final results pending
   - serologies still pending; urine copper pending
   - had LP repeated.  WBC/RBC present. more lymphocytes. no atypicals.
   Allergies:
   Zithromax (Oral) (Azithromycin)
   otoxocity
   visi
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2111-5-15**] 08:35 AM
   Pantoprazole (Protonix) - [**2111-5-15**] 04:00 PM
   Heparin Sodium (Prophylaxis) - [**2111-5-15**] 11:58 PM
   Other medications:
   Acetaminophen prn
   Doxycycline
   Prochlorperazine prn
   Lorazepam prn
   Ondansetrol prn
   Pantoprazole
   Morphine prn
   Docusate prn
   Ipratropium prn
   Changes to medical and family history: None
   Review of systems is unchanged from admission except as noted below
   Review of systems: Pt reports breathing improved. Denies pain.  Feeling
   cold. Trying to take more PO.
   Flowsheet Data as of  [**2111-5-16**] 07:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.8
C (101.9
   Tcurrent: 38.3
C (100.9
   HR: 116 (85 - 126) bpm
   BP: 121/59(73) {97/48(62) - 129/74(86)} mmHg
   RR: 38 (19 - 38) insp/min
   SpO2: 94% 4L NC
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 64 Inch
             Total In:
                                                                  4,208 mL
                                                                    391 mL
   PO:
                                                                  1,560 mL
             TF:
   IVF:
                                                                  1,604 mL
                                                                     77 mL
   Blood products:
   Total out:
                                                                  1,850 mL
                                                                    370 mL
   Urine:
                                                                  1,850 mL
                                                                    370 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,358 mL
                                                                     21 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ///27/
   Physical Examination
   General Appearance: Less diaphoretic, more alert, still tachypneic but
   appears more comfortable.
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic. No elevated JVP.  Hearing
   improved
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: Tachycardic, unable to appreciate MRG
   Respiratory / Chest: rapid shallow breathing but less so than
   yesterday; BS throughout lung fields, however diminished at bases.
   Otherwise clear
   Abdominal: Soft, Non-tender, Bowel sounds present, spleen tip palpable.
   No RUQ tenderness.
   Extremities: No edema, distal pulsesl palpable
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, No asterixisis.
   Anxious/depressed affect
   Labs / Radiology
   129 K/uL
   10.8 g/dL
   119 mg/dL
   0.5 mg/dL
   27 mEq/L
   4.3 mEq/L
   20 mg/dL
   104 mEq/L
   136 mEq/L
   31.6 %
   14.0 K/uL
        [image002.jpg]
                             [**2111-5-10**]  12:13 PM
                             [**2111-5-10**]  07:24 PM
                             [**2111-5-10**]  09:35 PM
                             [**2111-5-11**]  04:16 AM
                             [**2111-5-12**]  02:45 AM
                             [**2111-5-13**]  04:25 AM
                             [**2111-5-14**]  04:35 AM
                             [**2111-5-14**]  02:41 PM
                             [**2111-5-15**]  04:24 AM
                             [**2111-5-16**]  04:37 AM
   WBC
   8.8
   9.1
   11.4
   12.5
   13.0
   13.9
   14.0
   Hct
   43.4
   41.5
   41.8
   42.0
   36.0
   33.0
   31.6
   Plt
   88
   89
   76
   54
   99
   105
   129
   Cr
   0.9
   1.1
   1.1
   0.9
   0.6
   0.5
   TropT
   <0.01
   TCO2
   29
   30
   Glucose
   117
   142
   124
   134
   124
   119
   Other labs: PT / PTT / INR:15.8/28.2/1.4, CK / CKMB /
   Troponin-T:185/2/<0.01, ALT / AST:255/144, Alk Phos / T Bili:109/0.8,
   Differential-Neuts:85.0 %, Band:4.0 %, Lymph:5.0 %, Mono:2.0 %, Eos:0.0
   %, Fibrinogen:126 mg/dL, Albumin:2.1 g/dL, LDH:533 IU/L, Ca++:7.2
   mg/dL, Mg++:1.9 mg/dL, PO4:2.1 mg/dL
   CRP 14.8
   TP = 5.5
   SPEP: WNL
   Serum:
   VZV IgG positive
   CMV serology negative
   Lyme serology negative
   EBV serology pending
   CMV VL pending
   Crp ag negative
   Ceruloplasmin: WNL
   CSF:
   HIV VL negative
   Bacterial culture no growth
   Fungal culture no growth
   Viral culture no growth
   AFB culture, cancelled, not enough specimen
   Blood and urine cultures no growth to date.
   Radiology:
   CT ABD [**5-14**]
   IMPRESSION:
   1. No pathologically enlarged mesenteric, retroperitoneal or pelvic or
   inguinal nodes are noted.
   2. Moderate bilateral pleural effusion, right greater than left and
   moderate
   amount of ascites is noted in the peritoneal cavity. This appearance is
   mostly consistent with third spacing.
   3. Apparent diffuse hypodense thickening of the stomach. Although this
   appearance is mostly due to contraction and fluid overload, an
   underlying
   pathology such as gastric lymphoma can not be excluded.
   Assessment and Plan
   48F with confusing constellation of symptoms and lab abnormalities, as
   of yet unexplained: hypoxia and tachypnea, tachycardia, hearing loss,
   altered mental status,  elevated LFTs, thrombocytopenia, mediastinal
   LAD, leptomeningeal enhancement on MRI with abnormal CSF.
    #Abnormal MRI: meningeal enhancement, LP cellular with reactive
   lymphocytes.  No growth on cultures, no microorganisms on gram stain.
   Ddx for aseptic meningitis includes [**Female First Name (un) **], TB, fungal, spirochete,
   neoplastic or related to systemic illness (SLE, sarcoid, Behcet
   Sjogren
s, RA.  Malignancy less likely given results of CSF flow
   cytometry (reactive lymphocytes, no malignant cells).
   -Follow up viral cultures and other CSF studies
   -Continue doxycycline for leptospirosis coverage until leptospira ab
   negative
   -f/u serologies for lymphocytic choriomeningitis
   -Consider rheum consult for ? work up for possible Sjogren
s dz
   # Pulm: unclear etiology.  Pt presented initially with tachypnea,
   hypoxia.  Has been persistently tachypneic/tachycardic in ICU.  Overall
   02 requirement has somewhat decreased, however pt desaturates to 70%s
   when off 02.  Low lung volumes on CXR with ? effusions.  Had been
   concerned about CHF, however EF WNL and by urine lytes was
   intravascularly dry, now s/p rescusitation.     Unclear etiology.
   -Aggressive efforts today to improve low lung volumes wit OOB, IS and
   intermittent PPV
   -check NIF, ? neuromuscular etiology for poor respiratory effort and
   rapid shallow breathing
   -If NIF nl and no improvement with above measures, consider bronch to
   tissue sample of mediastinal/subcarinal LAD.
   -PPD negative
   -after discussing with cards, felt that late bubbles on ECHO are
   consistent with pulm AVMs, recommend repeat TTE when HR controlled to
   reevaluate valves and EF.
   -CT abdomen/pelvis did not reveal any lymphadenopathy, but did show
   ascites.  It is possible that she is third spacing fluid into her
   lungs, but is intra-vascular volume deplete, ID today added
   consideration for pulmonary leak syndrome/? HANTA virus
   -supplemental 02 prn.
   #LFT abnormalities:  Improving; still no clear etiology.
   - Hepatology input appreciated, covering with doxycycline empirically
   for leptospira.  Have d/w ID, will continue for now, re-evaluate when
   serologies back.
   -f/u vHHC mutation,  24 urine copper collection results pending.
   Ceruloplasmin nl
   -continue to trend LFTs.
   # Hyponatremia
 improved with free water restriction and fluid
   boluses.  Con
t to monitor for now.
   - con
t free water restriction
   - hydration PRN
   #Thrombocytopenia- improving plt count.
   - not likely DIC based on labs.  Levofloxacin has stopped.  Possibly
   pantoprozole but unlikely.
   - hold hep sc for now; may consider restarting tomorrow if platelets
   are stable; on pneumoboots
   #Nutrition
 Albumin 2.5, pt profoundly malnourished with poor PO
   intake complicated by inadequate alimentation in ICU due to
   procedurization.
   -encourage PO entake, calorie counts.
   ICU Care
   Nutrition:  regular diet
   Glycemic Control:  ISS
   Lines:
   22 Gauge - [**2111-5-14**] 01:00 PM
   PICC Line - [**2111-5-14**] 02:00 PM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer: ppi for GERD
   VAP:  n/a
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU for now while requiring high O2 and
   tachycardia/tachypnea

2111-05-16 12:04:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 LUMBAR PUNCTURE - At [**2111-5-15**] 09:48 AM
 BLOOD CULTURED - At [**2111-5-15**] 10:30 AM
 FEVER - 101.9
F - [**2111-5-15**] 06:00 PM
   Platelet count has recovered without intervention
   History obtained from Patient
   Allergies:
   Zithromax (Oral) (Azithromycin)
   otoxocity
   visi
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2111-5-15**] 04:00 PM
   Heparin Sodium (Prophylaxis) - [**2111-5-16**] 07:50 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Cardiovascular: Tachycardia
   Respiratory: Tachypnea
   Flowsheet Data as of  [**2111-5-16**] 11:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.8
C (101.9
   Tcurrent: 37.3
C (99.2
   HR: 109 (95 - 126) bpm
   BP: 114/74(82) {97/48(62) - 130/81(92)} mmHg
   RR: 36 (16 - 42) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 64 Inch
             Total In:
                                                                  4,208 mL
                                                                    954 mL
   PO:
                                                                  1,560 mL
                                                                    360 mL
   TF:
   IVF:
                                                                  1,604 mL
                                                                    116 mL
   Blood products:
   Total out:
                                                                  1,850 mL
                                                                    730 mL
   Urine:
                                                                  1,850 mL
                                                                    730 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,358 mL
                                                                    224 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ///27/
   Physical Examination
   General Appearance: Well nourished
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Skin:  Not assessed
   Neurologic: Follows simple commands, Responds to: Not assessed,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   10.8 g/dL
   129 K/uL
   119 mg/dL
   0.5 mg/dL
   27 mEq/L
   4.3 mEq/L
   20 mg/dL
   104 mEq/L
   136 mEq/L
   31.6 %
   14.0 K/uL
        [image002.jpg]
                             [**2111-5-10**]  12:13 PM
                             [**2111-5-10**]  07:24 PM
                             [**2111-5-10**]  09:35 PM
                             [**2111-5-11**]  04:16 AM
                             [**2111-5-12**]  02:45 AM
                             [**2111-5-13**]  04:25 AM
                             [**2111-5-14**]  04:35 AM
                             [**2111-5-14**]  02:41 PM
                             [**2111-5-15**]  04:24 AM
                             [**2111-5-16**]  04:37 AM
   WBC
   8.8
   9.1
   11.4
   12.5
   13.0
   13.9
   14.0
   Hct
   43.4
   41.5
   41.8
   42.0
   36.0
   33.0
   31.6
   Plt
   88
   89
   76
   54
   99
   105
   129
   Cr
   0.9
   1.1
   1.1
   0.9
   0.6
   0.5
   TropT
   <0.01
   TCO2
   29
   30
   Glucose
   117
   142
   124
   134
   124
   119
   Other labs: PT / PTT / INR:15.3/28.6/1.3, CK / CKMB /
   Troponin-T:185/2/<0.01, ALT / AST:255/144, Alk Phos / T Bili:109/0.8,
   Differential-Neuts:85.0 %, Band:4.0 %, Lymph:5.0 %, Mono:2.0 %, Eos:0.0
   %, Fibrinogen:126 mg/dL, Albumin:2.1 g/dL, LDH:533 IU/L, Ca++:7.2
   mg/dL, Mg++:1.9 mg/dL, PO4:2.1 mg/dL
   Imaging: CXR--Decreased lung volumes bilaterally with suggestion of
   right sided effusion--this is significantly worsened since admission by
   my interpretation
   Microbiology: VZV IgG--positive
   Otherwise pending
   Assessment and Plan
   48 yo female admit with tachypnea, tachycardia, altered mental status
   and lymphocyctosis in CSF but to date inability to establish unifying
   diagnosis.  Given dynamic insults and fluctuating findings a viral
   course of illness seems quite possible.  The problem with that is we
   are negative to date for all testing to determine final answer.  This
   morning patient has persistent resting tachypnea and tachycardia but
   overall has had some improvement in oxygen requirement.
   1)Tachypnea-
   -This appears to be correlated with what is impressive loss of lung
   volumes over time.  The differential for this specific issue may be as
   simple as de-recruitment in the setting of illness and bed rest.  What
   is also possible is there may be progressive restriction at the level
   of the pulmonary parenchyma or chest wall with pleural effisions.  In
   addition neuromuscular weakness could certainly contibute as well.
   -Will pursue incentive spirometry, oob
chair and IPPV today to attempt
   to recruit
   -Will check NIF to evaluate for possible weakness
   -If persistent compromise seen despite this it may well represent
   progressive restriction and parenchymal involvement be considered with
   repeat CT
   2)Leptomeningeal Process-
   -Follow up cultures and testing
   -Repeat LP reassuring thus far
   -Will follow up evaluation
   3)LFT Abnormalities-
   -Improving with observation and continue to track.
   gg
   ICU Care
   Nutrition:
   TPN without Lipids - [**2111-5-15**] 05:00 PM 41 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2111-5-14**] 02:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2111-05-17 08:16:00 Physician Resident Progress Note
Chief Complaint: 48F with confusing constellation of symptoms and lab
   abnormalities, as of yet unexplained: hypoxia and tachypnea,
   tachycardia, hearing loss, altered mental status,  elevated LFTs,
   thrombocytopenia, mediastinal LAD, leptomeningeal enhancement on MRI
   with abnormal CSF.
   24 Hour Events:
   -Checked NIF, very low at -24cm H20, unclear if was making appropriate
   effort
   -Trial of PPV, [**10-25**] with 3L with improvement in 02 sats, didn't
   tolerate for >30min, patient would not try nasal mask.
   -added on diff per ID recs, L shift, no bands.
   -also put in for HANTA virus serologies (send out, d/w micro resident)
   and sjogren's antibodies ([**Doctor Last Name **] and la)
   Allergies:
   Zithromax (Oral) (Azithromycin)
   otoxocity
   visi
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2111-5-17**] 07:07 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2111-5-17**] 08:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (101
   Tcurrent: 38
C (100.4
   HR: 101 (95 - 123) bpm
   BP: 125/68(81) {108/52(67) - 130/81(92)} mmHg
   RR: 33 (16 - 42) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 64 Inch
             Total In:
                                                                  2,962 mL
                                                                     79 mL
   PO:
                                                                  1,230 mL
             TF:
   IVF:
                                                                  1,240 mL
                                                                     79 mL
   Blood products:
   Total out:
                                                                  1,410 mL
                                                                    360 mL
   Urine:
                                                                  1,410 mL
                                                                    360 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,552 mL
                                                                   -281 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///27/
   NIF: -24 cmH2O
   Physical Examination
   General Appearance: More alert, still tachypneic but appears
   comfortable.
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic. No elevated JVP.  Hearing
   improved
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: Tachycardic, unable to appreciate MRG
   Respiratory / Chest: rapid shallow breathing but improved; BS
   throughout lung fields, however diminished at bases. Otherwise clear
   Abdominal: Soft, Non-tender, Bowel sounds present, spleen tip palpable.
   No RUQ tenderness.
   Extremities: No edema, distal pulsesl palpable
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, No asterixisis.
   Anxious/depressed affect
   Labs / Radiology
   164 K/uL
   10.2 g/dL
   90 mg/dL
   0.5 mg/dL
   27 mEq/L
   4.2 mEq/L
   18 mg/dL
   107 mEq/L
   137 mEq/L
   28.9 %
   15.5 K/uL
        [image002.jpg]
                             [**2111-5-10**]  07:24 PM
                             [**2111-5-10**]  09:35 PM
                             [**2111-5-11**]  04:16 AM
                             [**2111-5-12**]  02:45 AM
                             [**2111-5-13**]  04:25 AM
                             [**2111-5-14**]  04:35 AM
                             [**2111-5-14**]  02:41 PM
                             [**2111-5-15**]  04:24 AM
                             [**2111-5-16**]  04:37 AM
                             [**2111-5-17**]  04:58 AM
   WBC
   8.8
   9.1
   11.4
   12.5
   13.0
   13.9
   14.0
   15.5
   Hct
   43.4
   41.5
   41.8
   42.0
   36.0
   33.0
   31.6
   28.9
   Plt
   88
   89
   76
   54
   99
   105
   129
   164
   Cr
   0.9
   1.1
   1.1
   0.9
   0.6
   0.5
   0.5
   TropT
   <0.01
   TCO2
   30
   Glucose
   117
   142
   124
   134
   124
   119
   90
   Other labs: PT / PTT / INR:15.2/38.9/1.3, CK / CKMB /
   Troponin-T:185/2/<0.01, ALT / AST:185/95, Alk Phos / T Bili:96/0.7,
   Differential-Neuts:81.5 %, Band:0.0 %, Lymph:11.6 %, Mono:5.7 %,
   Eos:0.8 %, Fibrinogen:126 mg/dL, Albumin:2.1 g/dL, LDH:470 IU/L,
   Ca++:6.8 mg/dL, Mg++:1.9 mg/dL, PO4:2.4 mg/dL
   Fluid analysis / Other labs: Ceruloplasmin 48 (wnl)
   B-glucan pending
   EBV PCR pending
   Hereditary hemochromatosis mutation pending
   HSV 1 and 2 IGG pending
   HSV 1 and 2 IGM pending
   Ehrlichia serologies pending
   Leptospira antibodies pending
   Lymphocytic choriomeningitis pending
   Mycoplasma serologies pending
   Ro and [**Name Prefix (Prefixes) **] [**Last Name (Prefixes) 2417**] pending
   VZV antibody pending
   UPEP pending
   CSF serologies:  all pending
   CMV PCR
   ACE
   EBV PCR
   HHV 6
   Lyme
   Varicella PCR
   VDRL
   Albumin 2.1
   Imaging: CXR [**5-16**] IMPRESSION:
   1. Stable moderate right pleural effusion. Small left pleural effusion.
   2. Stable bibasilar atelectasis and low lung volumes.
   3. Right PICC line in satisfactory location.
   Microbiology: All pending
   Assessment and Plan
   48F with confusing constellation of symptoms and lab abnormalities, as
   of yet unexplained: hypoxia and tachypnea, tachycardia, hearing loss,
   altered mental status,  elevated LFTs, thrombocytopenia, mediastinal
   LAD, leptomeningeal enhancement on MRI with abnormal CSF.
   # Pulm: Unclear etiology.  Pt presented initially with tachypnea,
   hypoxia.  Has been persistently tachypneic/tachycardic in ICU.  Overall
   02 requirement has somewhat decreased, however pt desaturates to 70%s
   when off 02.  Low lung volumes on CXR with ? effusions.  Had been
   concerned about CHF, however EF WNL and by urine lytes was
   intravascularly dry, now s/p rescusitation.   Unclear etiology.  Did
   not tolerate IPPV yesterday, though did have small improvement in O2
   sats at the time.
   - Aggressive efforts to improve low lung volumes wit OOB, IS and
   intermittent PPV
   - ? neuromuscular etiology for poor respiratory effort and rapid
   shallow breathing, NIF checked, low at -24cm H2O though unclear if poor
   patient effort.
   - Can consider spirometry sitting up and laying flat to determine
   differential.  If large decrease when laying flat, may be
   diaphragm/neuromuscular etiology.  Could consider EMG/nerve conduction
   studies at that time.  Will discuss with RT on Monday (ie portable
   spirometry vs. PFT lab).
   - Can still consider bronch to tissue sample of mediastinal/subcarinal
   LAD, will hold off for now.
   - PPD negative
   - After discussing with cards, felt that late bubbles on ECHO are
   consistent with pulm AVMs, recommend repeat TTE when HR controlled to
   reevaluate valves and EF.
   - CT abdomen/pelvis did not reveal any lymphadenopathy, but did show
   ascites.  It is possible that she is third spacing fluid into her
   lungs, but is intra-vascular volume deplete, ID today added
   consideration for pulmonary leak syndrome/? HANTA virus
   - Supplemental 02 prn.
   #Abnormal MRI: meningeal enhancement, LP cellular with reactive
   lymphocytes.  No growth on cultures, no microorganisms on gram stain.
   Ddx for aseptic meningitis includes viral, TB, fungal, spirochete,
   neoplastic or related to systemic illness (SLE, sarcoid, Behcet
   Sjogren
s, RA).  Malignancy less likely given results of CSF flow
   cytometry (reactive lymphocytes, no malignant cells).
   - Follow up viral cultures and other CSF studies
   - Continue doxycycline for leptospirosis coverage until leptospira ab
   negative
   - F/u serologies for lymphocytic choriomeningitis
   - Consider rheum consult for ? work up for possible Sjogren
s dz
   # Leukocytosis/fevers: Unclear etiology. As above no positive culture
   results. Multiple serologies pending. Yesterday, diff with left shift,
   no bands. Urine cx have been negative.  Empirically covering
   leptospirosis with doxycycline at this time.
   - Per ID, will send urine histoplasma Ag.  No obvious source at this
   time.
   - Continue to CIS, trend fever curve.
   #LFT abnormalities:  Improving; still no clear etiology.
   - Hepatology input appreciated, covering with doxycycline empirically
   for leptospira.  Have d/w ID, will continue for now, re-evaluate when
   serologies back.
   - F/u vHHC mutation,  24 urine copper collection results pending.
   Ceruloplasmin nl
   - Continue to trend
   # Hyponatremia: Improved with free water restriction and fluid
   boluses.  Con
t to monitor for now.
   - Con
t free water restriction
   - Hydration PRN
   # Anemia: Hct trending down. No clear source of bleed. Patient was
   initially dry, now s/p IVF resuscitation. [**Month (only) 60**] be dilutional. No
   evidence of hemolysis when last checked on the 23rd.
   - Iron studies consistent with acute phase/chronic disease
   - Can consider rechecking smear/red cell morphology
   - Continue to monitor
   - Guaiac all stools
   #Thrombocytopenia: improving plt count.
   - Not likely DIC based on labs.  Levofloxacin has stopped.  Possibly
   pantoprozole but unlikely.
   - Restarted hep sc
   #Nutrition: Albumin 2.1, pt profoundly malnourished with poor PO intake
   complicated by inadequate alimentation in ICU due to procedurization.
   - Encourage PO entake, calorie counts.  Patient did have good PO intake
   this morning.
   - Can consider TPN again if patient not tolerating PO
   ICU Care
   Nutrition:
   PO, calorie counts
   Glycemic Control:
   Lines:
   PICC Line - [**2111-5-14**] 02:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin, boots
   Stress ulcer:  PPI
   VAP:  NA
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: Can call out to floor as no need for ICU LOC

2111-05-17 11:00:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   patient weaned to 2 lpm o2
   Patient out of bed to chair without event
   History obtained from Patient
   Allergies:
   Zithromax (Oral) (Azithromycin)
   otoxocity
   visi
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2111-5-17**] 07:07 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Cardiovascular: Tachycardia
   Respiratory: Tachypnea
   Flowsheet Data as of  [**2111-5-17**] 11:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (101
   Tcurrent: 36.6
C (97.9
   HR: 100 (98 - 123) bpm
   BP: 115/65(76) {108/52(67) - 125/74(82)} mmHg
   RR: 21 (21 - 40) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 64 Inch
             Total In:
                                                                  2,962 mL
                                                                    468 mL
   PO:
                                                                  1,230 mL
                                                                    360 mL
   TF:
   IVF:
                                                                  1,240 mL
                                                                    108 mL
   Blood products:
   Total out:
                                                                  1,410 mL
                                                                    477 mL
   Urine:
                                                                  1,410 mL
                                                                    477 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,552 mL
                                                                     -9 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///27/
   NIF: -24 cmH2O
   Physical Examination
   General Appearance: Thin
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   10.2 g/dL
   164 K/uL
   90 mg/dL
   0.5 mg/dL
   27 mEq/L
   4.2 mEq/L
   18 mg/dL
   107 mEq/L
   137 mEq/L
   28.9 %
   15.5 K/uL
        [image002.jpg]
                             [**2111-5-10**]  07:24 PM
                             [**2111-5-10**]  09:35 PM
                             [**2111-5-11**]  04:16 AM
                             [**2111-5-12**]  02:45 AM
                             [**2111-5-13**]  04:25 AM
                             [**2111-5-14**]  04:35 AM
                             [**2111-5-14**]  02:41 PM
                             [**2111-5-15**]  04:24 AM
                             [**2111-5-16**]  04:37 AM
                             [**2111-5-17**]  04:58 AM
   WBC
   8.8
   9.1
   11.4
   12.5
   13.0
   13.9
   14.0
   15.5
   Hct
   43.4
   41.5
   41.8
   42.0
   36.0
   33.0
   31.6
   28.9
   Plt
   88
   89
   76
   54
   99
   105
   129
   164
   Cr
   0.9
   1.1
   1.1
   0.9
   0.6
   0.5
   0.5
   TropT
   <0.01
   TCO2
   30
   Glucose
   117
   142
   124
   134
   124
   119
   90
   Other labs: PT / PTT / INR:15.2/38.9/1.3, CK / CKMB /
   Troponin-T:185/2/<0.01, ALT / AST:185/95, Alk Phos / T Bili:96/0.7,
   Differential-Neuts:81.5 %, Band:0.0 %, Lymph:11.6 %, Mono:5.7 %,
   Eos:0.8 %, Fibrinogen:126 mg/dL, Albumin:2.1 g/dL, LDH:470 IU/L,
   Ca++:6.8 mg/dL, Mg++:1.9 mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
   48 yo female with multiple complaints and with slow to improve
   oxygenation but with capacity to wean supplemental oxygen.
   1)Hypoxemia-
   -Patient with wean of o2 as tolerated and will trial room air
   -Patient with NIF -25 but complicated by patient effort
   -Will pursue upright and supine spirometry to look for 15% fall in
   supine position to consider possible diaphram weakness
   -If found would consider a progressive inflammatory demyelinating
   disorder as possible explanation and with neurology could consider
   EMG/NCS studies to better define.
   -Today--OOB to chair, incentive spirometry and re-evaluation CXR in am.
   2)MRI Abnormalities-
   -Flow reassuring for absence of malignancy
   3)Leukocytosis-
   -Doxycycline continuing
   -No new findings on culture results
   -Will continue to adjust with ID input
   4)Transaminitis-
   -Improving
   -Ceruloplasmin normal
   5)Hyponatremia-
   -Improving with free water restriction and adequate volume status
   6)Thrombocytopenia-
   -Resolved without intervention
   7)Nutrition-
   -Will need to enhance po intake and TPN used intermittently
   gg
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2111-5-14**] 02:00 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin(OOB to chair today)
   Stress ulcer:
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 45 minutes